2179-09-14 07:19:00 Physician Resident Progress Note
24 Hour Events:
   - Replaced A line
   - Increasing white count with left shift
   - ? HD today
   - Add flagyl for C.diff coverage
   - Restarted amlodipine and on labetalol drip for htn
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vanc, zosyn, flagyl
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-14**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tc 98.9
   Tm 99.6
   BP 166/78
   HR 74
   SaO2 97%
   RR 21
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   CPAP, FiO2 40%, Peep 10, Pressure Support 20, RR 20s-30s
   ABG: 7.39/44/77.[**Numeric Identifier 96**]/25/0
   Physical Examination
   Gen: intubated
   Chest: coarse breath sounds
   CV: reg rhythm
   Abd: obese, soft
   Ext: edematous, vascular skin changes, vac on left fasciotomy wound.
   Multiple ecchymoses of bilat UEs.
   Labs / Radiology
   288 K/uL
   10.2 g/dL
   91 mg/dL
   6.0 mg/dL
   25 mEq/L
   5.5 mEq/L
   70 mg/dL
   99 mEq/L
   136 mEq/L
   28.2 %
   24.3 K/uL
        [image002.jpg] Lytes were hemolyzed and ? artificially elev
                             [**2179-9-12**]  03:38 PM
                             [**2179-9-12**]  09:50 PM
                             [**2179-9-13**]  03:03 AM
                             [**2179-9-13**]  03:08 AM
                             [**2179-9-13**]  10:39 AM
                             [**2179-9-13**]  12:33 PM
                             [**2179-9-13**]  09:56 PM
                             [**2179-9-14**]  03:00 AM
                             [**2179-9-14**]  03:26 AM
                             [**2179-9-14**]  06:23 AM
   WBC
   15.3
   24.3
   Hct
   30.9
   28.2
   Plt
   218
   288
   Cr
   4.2
   6.0
   TCO2
   28
   29
   29
   29
   26
   27
   29
   28
   Glucose
   241
   357
   91
   Other labs: PT / PTT / INR:14.3/33.0/1.2, CK / CKMB /
   Troponin-T:151/4/0.04, ALT / AST:30/62, Alk Phos / T Bili:128/2.1,
   Amylase / Lipase:56/10, Differential-Neuts:58.0 %, Band:16.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.5
   g/dL, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assessment:
   69 year old man with septic shock from Group A Strep cellulitis and
   compartment syndrome now with persistent renal failure and respiratory
   failure. Markedly hypertensive and hyperglycemic.  Now w/ leukocytosis
   and significant left shift.
   .
   Plan:
   ## Respiratory failure: concerning for VAP; [**Name8 (MD) **] RN, has developed thick
   secretions; does not appear to have baseline CO2 retention from obesity
   (as would be expected from an obesity/hypoventillation syndrome)
   -  CXR was suggestive of ETT displacement.  Was bronched at bedside and
   tube replaced.
   - sputum Gram stain/culture
   - D/c PCN G and clinda, add piperacillin/tazobactam to cover VAP
   pathogens,  vancomycin for MRSA coverage, and flagyl for c.diff
   - BP control with labetalol drip (hypertension has precluded the team's
   ability to wean sedation)
   .
   ## Acute renal failure due to ischemic ATN +/- very mild rhabdomyolysis
   in the setting of septic shock; CVVH stopped this morning and
   nephrology planning on initiating hemodialysis in AM for volume
   overload
   - minimize IV fluids
   - HD today per renal for management of volume overload/hypertension
   - Per pharmacy, if pt gets HD, will need to add 500 mg vanc s/p
   dialysis.  Also, change zosyn to q8h
   - normal acid-base balance currently; potassium normal
   .
   ## Septic shock; initial septic shock seems to have resolved, but new
   leukocytosis concerning for new infection; most likely is VAP given
   inability to wean from ventilator and thick secretions being suctioned;
   line infection also possible
   - add on WBC differential
   - Blood and sputum cultures pending
   - Will empirically add flagyl to cover for c. diff (pt has not stooled
   and can not test but pt has been on clinda.  Will d/c clinda)
   - change penicillin to piperacillin/tazobactam as above; add vancomycin
   for MRSA coverage to cover VAP pathogens
   - ID input appreciated
   .
   ## Type 2 diabetes mellitus; markedly hyperglycemic requiring very
   large insulin doses on insulin drip
   - hourly fingersticks
   - cont insulin drip and titrate to goal FSBG <150
   .
   ## Hypertension: marked hypertension poorly-controlled on current
   regimen
   - On labetalol drip.  Also, restarted amlodipine (one home BP med that
   was not nephrotoxic
   - HD tomorrow per renal likely to improve volume status somewhat
   .
   ## Compartment syndrome s/p fasciotomy
   - wound care per surgical team
   .
   ## Hyperlipidemia: cont statin
   .
   ## Bilirubinemia: could represent underlying fatty liver disease; has
   been stable
   - Total was 3.1, direct 2.6
   .
   ## Atrial fibrillation; had brief post-op atrial fibrillation at
   [**Hospital 3296**] Hospital, though it has not been an issue here
   - cont to monitor; if recurs, consider anticoagulation
   .
   ## FEN: tube feeds with free water flushes
   ## ICU Care: SC heparin for DVT prophylaxis; ppi for stress ulcer
   prophylaxis
   ## Communication: wife [**Name (NI) 1828**] (home [**Telephone/Fax (1) 4973**]; cell [**Telephone/Fax (1) 4974**]);
   son [**Name (NI) **] (cell [**0-0-**])
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition: tube feeds with free water
   Glycemic Control:  insulin
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: PPI
   VAP:  elev HOB, mouth care, daily wake up
   Comments:
   Communication:  Comments: wife and son
   [**Name (NI) 66**] status: Full
   Disposition: MICU

2179-09-15 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Repositioned ET tube
   Antibiotics changed to Clinda (for GAS), cefepime, flagyl
   Hemodialysis
   Started Timolol
   changes.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-15**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.42/42/116/24/3
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   9.5 g/dL
   92 mg/dL
   6.3 mg/dL
   24 mEq/L
   5.2 mEq/L
   73 mg/dL
   102 mEq/L
   137 mEq/L
   27.4 %
   25.6 K/uL
        [image002.jpg]
                             [**2179-9-13**]  12:33 PM
                             [**2179-9-13**]  09:56 PM
                             [**2179-9-14**]  03:00 AM
                             [**2179-9-14**]  03:26 AM
                             [**2179-9-14**]  06:23 AM
                             [**2179-9-14**]  08:39 AM
                             [**2179-9-14**]  11:54 AM
                             [**2179-9-14**]  05:54 PM
                             [**2179-9-15**]  04:00 AM
                             [**2179-9-15**]  04:17 AM
   WBC
   24.3
   25.8
   25.6
   Hct
   28.2
   29.0
   27.4
   Plt
   288
   360
   387
   Cr
   6.0
   6.3
   TCO2
   26
   27
   29
   28
   25
   26
   28
   Glucose
   91
   111
   107
   92
   Other labs: PT / PTT / INR:15.3/26.9/1.4, CK / CKMB /
   Troponin-T:151/4/0.04, ALT / AST:35/46, Alk Phos / T Bili:139/1.5,
   Amylase / Lipase:56/10, Differential-Neuts:69.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.2
   g/dL, LDH:270 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   CXR: ET tube placement ok
   BAL: GS -> no polys or organisms
   Assessment and Plan
   Assessment:
   69 year old man with septic shock from Group A Strep cellulitis and
   compartment syndrome now with persistent renal failure and respiratory
   failure. Markedly hypertensive and hyperglycemic.  Now w/ leukocytosis
   and significant left shift.
   .
   Plan:
   ## Respiratory failure: concerning for VAP; [**Name8 (MD) **] RN, has developed thick
   secretions; does not appear to have baseline CO2 retention from obesity
   (as would be expected from an obesity/hypoventillation syndrome)
   -  CXR was suggestive of ETT displacement.  Was bronched at bedside and
   tube replaced.
   - sputum Gram stain/culture
   - D/c PCN G and clinda, add piperacillin/tazobactam to cover VAP
   pathogens,  vancomycin for MRSA coverage, and flagyl for c.diff
   - BP control with labetalol drip (hypertension has precluded the team's
   ability to wean sedation)
   .
   ## Acute renal failure due to ischemic ATN +/- very mild rhabdomyolysis
   in the setting of septic shock; CVVH stopped this morning and
   nephrology planning on initiating hemodialysis in AM for volume
   overload
   - minimize IV fluids
   - HD today per renal for management of volume overload/hypertension
   - Per pharmacy, if pt gets HD, will need to add 500 mg vanc s/p
   dialysis.  Also, change zosyn to q8h
   - normal acid-base balance currently; potassium normal
   .
   ## Septic shock; initial septic shock seems to have resolved, but new
   leukocytosis concerning for new infection; most likely is VAP given
   inability to wean from ventilator and thick secretions being suctioned;
   line infection also possible
   - add on WBC differential
   - Blood and sputum cultures pending
   - Will empirically add flagyl to cover for c. diff (pt has not stooled
   and can not test but pt has been on clinda.  Will d/c clinda)
   - change penicillin to piperacillin/tazobactam as above; add vancomycin
   for MRSA coverage to cover VAP pathogens
   - ID input appreciated
   .
   ## Type 2 diabetes mellitus; markedly hyperglycemic requiring very
   large insulin doses on insulin drip
   - hourly fingersticks
   - cont insulin drip and titrate to goal FSBG <150
   .
   ## Hypertension: marked hypertension poorly-controlled on current
   regimen
   - On labetalol drip.  Also, restarted amlodipine (one home BP med that
   was not nephrotoxic
   - HD tomorrow per renal likely to improve volume status somewhat
   .
   ## Compartment syndrome s/p fasciotomy
   - wound care per surgical team
   .
   ## Hyperlipidemia: cont statin
   .
   ## Bilirubinemia: could represent underlying fatty liver disease; has
   been stable
   - Total was 3.1, direct 2.6
   .
   ## Atrial fibrillation; had brief post-op atrial fibrillation at
   [**Hospital 3296**] Hospital, though it has not been an issue here
   - cont to monitor; if recurs, consider anticoagulation
   .
   ## FEN: tube feeds with free water flushes
   ## ICU Care: SC heparin for DVT prophylaxis; ppi for stress ulcer
   prophylaxis
   ## Communication: wife [**Name (NI) 1828**] (home [**Telephone/Fax (1) 4973**]; cell [**Telephone/Fax (1) 4974**]);
   son [**Name (NI) **] (cell [**0-0-**])
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-09-16 05:38:00 Physician Resident Progress Note
Chief Complaint: OSH transfer, GAS bacteremia, s/p LLE fasciotomy
   24 Hour Events:
   -Hemodialysis -3.5 liters
   -Plastics c/s --- rec nutrition c/s and labs, await staffing
   -Converting to NPH and sliding scale from insulin gtt
   -Added metoprolol 25 [**Hospital1 **] for hypertension o/n
   -Frequent brown liquid BMs (not malodorous)
   -Surgery attending saw patient
 low concern for extension, frequent
   leg exams
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2179-9-15**] 04:47 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Metoprolol - [**2179-9-16**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-16**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 78 (69 - 84) bpm
   BP: 157/56(82) {129/45(65) - 175/63(91)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 5 (5 - 13)mmHg
   Total In:
                                                                  3,112 mL
                                                                    448 mL
   PO:
   TF:
                                                                    600 mL
                                                                    273 mL
   IVF:
                                                                    759 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  5,017 mL
                                                                      5 mL
   Urine:
                                                                     17 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,905 mL
                                                                    443 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 557 (557 - 678) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.37/48/91/26/1
   Ve: 12 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   473 K/uL
   9.6 g/dL
   121 mg/dL
   6.3 mg/dL
   26 mEq/L
   5.1 mEq/L
   72 mg/dL
   100 mEq/L
   139 mEq/L
   28.9 %
   26.5 K/uL
        [image002.jpg]
                             [**2179-9-14**]  03:00 AM
                             [**2179-9-14**]  03:26 AM
                             [**2179-9-14**]  06:23 AM
                             [**2179-9-14**]  08:39 AM
                             [**2179-9-14**]  11:54 AM
                             [**2179-9-14**]  05:54 PM
                             [**2179-9-15**]  04:00 AM
                             [**2179-9-15**]  04:17 AM
                             [**2179-9-16**]  03:22 AM
                             [**2179-9-16**]  03:28 AM
   WBC
   24.3
   25.8
   25.6
   26.5
   Hct
   28.2
   29.0
   27.4
   28.9
   Plt
   288
   360
   387
   473
   Cr
   6.0
   6.3
   6.3
   TCO2
   29
   28
   25
   26
   28
   29
   Glucose
   91
   111
   107
   92
   121
   Other labs: PT / PTT / INR:15.3/26.2/1.3, CK / CKMB /
   Troponin-T:151/4/0.04, ALT / AST:35/46, Alk Phos / T Bili:139/1.5,
   Amylase / Lipase:56/10, Differential-Neuts:69.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.4
   g/dL, LDH:270 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   69 year old man with DM who presented from OSH with septic shock from
   Group A Strep cellulitis and compartment syndrome s/p LLE fasciotomy *
   2 now with persistent renal and respiratory failure along with
   hyperglycemia controlled with insulin drip and resolved hypertension.
   Now w/ leukocytosis and left shift.
   .
   Plan:
   ##. Leukocytosis with bandemia, uncertain etiology
 currently covering
   broadly with vanc, cefepime, flagyl, and clindamycin
   -continue emperic coverage for VAP and C.diff; continue coverage for
   GAS
   -culture subclavian and HD lines
   -ID following, appreciate recs (d/c clinda today)
   ## Respiratory failure: concerning for VAP; does not appear to have
   baseline CO2 retention from obesity (as would be expected from an
   obesity/hypoventillation syndrome)
   - sputum Gram stain/culture
   - cont treatment for VAP with vanc, cefepime, clinda
   - attempt to wean midazolam and fentanyl, encourage patient to be more
   awake
   .
   ## Acute renal failure due to ischemic ATN +/- very mild rhabdomyolysis
   in the setting of septic shock; CVVH stopped, now on HD making very
   minimal urine
   - minimize IV fluids, concentrating all meds
   - HD today per renal for management of volume overload/hypertension
   with goal as negative as BP allows (hold BP med)
   - vanc dosing per HD protocol
   .
   ## Type 2 diabetes mellitus: glucose under control requiring with
   insulin drip
   - hourly fingersticks
   - cont insulin drip and titrate to goal FSBG <150
   .
   ## Hypertension: marked hypertension prior to initiation of aggressive
   HD, now controlled
   - restarted amlodipine (one home BP med that was not nephrotoxic) but
   holding today as per renal request
   - HD today with hope of negative balance
   .
   ## Compartment syndrome s/p fasciotomy
   -wound care consult
   -plastics consult
   .
   ## Hyperlipidemia: cont statin
   .
   ## Bilirubinemia: could represent underlying fatty liver disease; has
   been stable
   .
   ## FEN: tube feeds with free water flushes
   ## ICU Care: SC heparin for DVT prophylaxis; ppi for stress ulcer
   prophylaxis
   ## Lines: right subclavian, left HD triple-lumen
   ## Communication: wife [**Name (NI) 1828**] (home [**Telephone/Fax (1) 4973**]; cell [**Telephone/Fax (1) 4974**]);
   son [**Name (NI) **] (cell [**0-0-**])
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-15**] 11:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Multi Lumen - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-15**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-16 10:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2179-9-15**] 12:00 PM
 MULTI LUMEN - START [**2179-9-15**] 12:00 PM
 DIALYSIS CATHETER - START [**2179-9-15**] 12:00 PM
 INVASIVE VENTILATION - START [**2179-9-15**] 12:00 PM
   Insulin infusion converted to SQ.
   Seen by surgery who felt low concern for extension of LE infection
   Tolerated thoracentesis
   Patient unable to provide history: Sedated
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2179-9-15**] 04:47 PM
   Vanco, Flagyl
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Metoprolol - [**2179-9-16**] 02:00 AM
   Other medications:
   Vancomycin per HD protocol
   SQI, CHG, Reglan, timolol, Flagyl
   SQH, colace, H2B, amlodipine
   Statin, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-16**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 87 (69 - 93) bpm
   BP: 168/59(88) {129/45(65) - 175/63(91)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
   CVP: 8 (5 - 13)mmHg
   Total In:
                                                                  3,112 mL
                                                                    868 mL
   PO:
   TF:
                                                                    600 mL
                                                                    537 mL
   IVF:
                                                                    759 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  5,017 mL
                                                                      5 mL
   Urine:
                                                                     17 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,905 mL
                                                                    864 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (431 - 678) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.37/48/91/26/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam only)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, LLE examined with dressings off. Tissues appear
   viable.
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   473 K/uL
   121 mg/dL
   6.3 mg/dL
   26 mEq/L
   5.1 mEq/L
   72 mg/dL
   100 mEq/L
   139 mEq/L
   28.9 %
   26.5 K/uL
        [image002.jpg]
                             [**2179-9-14**]  03:00 AM
                             [**2179-9-14**]  03:26 AM
                             [**2179-9-14**]  06:23 AM
                             [**2179-9-14**]  08:39 AM
                             [**2179-9-14**]  11:54 AM
                             [**2179-9-14**]  05:54 PM
                             [**2179-9-15**]  04:00 AM
                             [**2179-9-15**]  04:17 AM
                             [**2179-9-16**]  03:22 AM
                             [**2179-9-16**]  03:28 AM
   WBC
   24.3
   25.8
   25.6
   26.5
   Hct
   28.2
   29.0
   27.4
   28.9
   Plt
   288
   360
   387
   473
   Cr
   6.0
   6.3
   6.3
   TCO2
   29
   28
   25
   26
   28
   29
   Glucose
   91
   111
   107
   92
   121
   Other labs: PT / PTT / INR:15.3/26.2/1.3, CK / CKMB /
   Troponin-T:151/4/0.04, ALT / AST:35/46, Alk Phos / T Bili:139/1.5,
   Amylase / Lipase:56/10, Differential-Neuts:69.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.4
   g/dL, LDH:270 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Imaging: CXR: ETT 6cm. Left base opacity.
   Microbiology: No new (+) micro. C diff (-) x 2.
   Assessment and Plan
   69 y/o man with
          Severe LE infection s/p fasciotomy
          Group A strep bacteremia
          Respiratory failure
          Acute renal failure now on hemodialysis
          Hypertension
          Obesity
          Probable VAP
          Leucocytosis
   Challenging management in terms of sedation.  We will try to titrate
   down the benzodiazepine.  He will still require pain control and so we
   will continue (and likely need to escalate) the fentanyl.  He may be a
   reasonable patient to try propofol if we need additional sedation
   (though will still require).  We will try to wean PEEP again today.
   [**Month (only) 60**] be reasonable to consider tracheostomy early next week if not
   progressing.
   We will continue present ABX for now.  We will plan to treat for VAP
   for an 8 day total course if no other diagnosis becomes apparent.  He
   will need ongoing rx for his GAS and cellulitis.
   We will ask his wife to come in when feasible.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-15**] 11:00 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: long-acting
   insulin
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Multi Lumen - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-15**] 12:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2179-09-17 06:29:00 Physician Resident Progress Note
24 Hour Events:
   -RSBI of 61, on SBT currently (PEEP 0/PS 7)
   -Midaz off; increased fentanyl to 150mcg/hr b/c HTN with movement
   thought [**2-13**] pain
   -HD took off 7L yesterday, renal would like to do HD q3 ([**9-18**])
   -Day [**5-20**] Abx, febrile o/n to 100.3, cultured lines
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-16**] 07:00 PM
   Cefipime - [**2179-9-16**] 08:00 PM
   Flagyl
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2179-9-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-17**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 88 (87 - 102) bpm
   BP: 170/60(85) {130/53(76) - 196/73(109)} mmHg
   RR: 24 (24 - 32) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 5 (-5 - 15)mmHg
   Total In:
                                                                  2,417 mL
                                                                    520 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    313 mL
   IVF:
                                                                    657 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  7,025 mL
                                                                      5 mL
   Urine:
                                                                     25 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,608 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 468 (431 - 504) mL
   PS : 7 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.40/41/96.[**Numeric Identifier 244**]/24/0
   Ve: 15.4 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: Intubated and sedated, opened eyes spont once but does not follow
   commands
   HEENT: NCAT, pupils pinpoint but equal and reactive, MMM and I
   CV: slightly tachycardic, no MRG, nl S1, S2
   Lungs: CTA b/l
   Abd: obese, soft, nondistended, no grimace or reaction with deep
   palpation, +BS
   Ext: RLE fasciotomy site clean with no granulation tissue, muscle and
   tendon exposed and appear healthy, subcutaneous fat somewhat dusky in
   color; erythema and warmth extending up to the distal thigh (stable),
   no crepitus, d/ps 2+ b/
   Labs / Radiology
   532 K/uL
   10.2 g/dL
   268 mg/dL
   6.8 mg/dL
   24 mEq/L
   5.1 mEq/L
   80 mg/dL
   98 mEq/L
   136 mEq/L
   30.3 %
   27.3 K/uL
        [image002.jpg]
                             [**2179-9-14**]  06:23 AM
                             [**2179-9-14**]  08:39 AM
                             [**2179-9-14**]  11:54 AM
                             [**2179-9-14**]  05:54 PM
                             [**2179-9-15**]  04:00 AM
                             [**2179-9-15**]  04:17 AM
                             [**2179-9-16**]  03:22 AM
                             [**2179-9-16**]  03:28 AM
                             [**2179-9-16**]  04:20 PM
                             [**2179-9-17**]  03:31 AM
   WBC
   25.8
   25.6
   26.5
   27.3
   Hct
   29.0
   27.4
   28.9
   30.3
   Plt
   [**Telephone/Fax (3) 5085**]32
   Cr
   6.3
   6.3
   6.8
   TCO2
   28
   25
   26
   28
   29
   27
   26
   Glucose
   111
   107
   92
   121
   268
   Other labs: PT / PTT / INR:16.0/27.5/1.4, CK / CKMB /
   Troponin-T:51/4/0.04, ALT / AST:27/24, Alk Phos / T Bili:182/0.9,
   Amylase / Lipase:56/10, Differential-Neuts:62.0 %, Band:9.0 %,
   Lymph:23.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.7 g/dL, LDH:302 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:7.0
   mg/dL
   Cultures: daily blood cx all NGTD, C.diff neg times two, 2 pending
   Assessment and Plan
   69 year old man with DM who presented from OSH with septic shock from
   Group A Strep cellulitis, compartment syndrome s/p LLE fasciotomy, ARF
   thought [**2-13**] ATN on HD, VAP, and leukocytosis w left shift that had
   transiently resolved but is now persistent.
   Plan:
   ##. Leukocytosis with bandemia, uncertain etiology
 currently covering
   broadly with vanc, cefepime, flagyl.  Possibly abscess or parapnemonic
   loculated effusion
   - CT neck to legs today with IV contrast
   - continue current abx, f/u ID recs
   - plan for 8 day course for VAP (per ID, can revert to PCN on [**9-24**])
   - GAS bacteremia course usually 14-21 days although may need to adjust
   in this patient as he remains and may remain acutely ill
   -  d/c subclavian once PICC is placed
   ## Respiratory failure: felt to have VAP; did well from resp standpoint
   but concern for airway protection risk due to AMS which may be [**2-13**]
   sedating meds vs new baseline mental status; no growth to date for
   cultures
   - continue to follow cultures
   - cont treatment for VAP with vanc, cefepime
   - wean sedatives
   - CT today to look for effusion vs persistent PNA
   .
   ## Acute renal failure due to ischemic ATN +/- very mild rhabdomyolysis
   in the setting of septic shock; now on HD making very minimal urine;
   all meds are concentrated aside from fentanyl (attempting to wean) and
   vanco; not improving
 plan for q3 HD
   - will need HD after IV contrast for CT
   - vanc, cefepime dosing per HD protocol
   - renal feels HD cath is too proximal and therefore not effective,
   renal plans to change line for proper positioning prior to CT scan so
   patient can be dialyzed after CT
   .
   ## Type 2 diabetes mellitus
 Hyperglycemic for past 24 hours.
   Currently on 80/60 NPH plus sliding scale
   - Titrate up NPH for improved glycemic control
   .
   ## Hypertension: Multiple home BP meds have been held [**2-13**] poor
   tolerance in setting of renal failure; unable to wean fentanyl because
   patient becomes very hypertensive (low 200s) with any movement or
   agitation; currently receiving amlodipine 10mg daily, metoprolol 25mg
   [**Hospital1 **]
   - HD today as above
   - increase metoprolol to 50 [**Hospital1 **]
   - continue amlodipine
   .
   ## Compartment syndrome s/p fasciotomy
 dressings as per instructed by
   wound care; plastics have evaluated and feel there is no current role
   for their intervention
   - follow wound care recs
   - gen [**Doctor First Name 458**] recs
   .
   ## Hyperlipidemia: cont statin
   .
   ## FEN: tube feeds with free water flushes
   ## ICU Care: SC heparin for DVT prophylaxis (increased to 7500 TID for
   patient habitus); ranitidine for stress ulcer prophylaxis
   ## Lines: right subclavian (once PICC placed, d/c subclavian), left HD
   triple-lumen, left ART line (change)
   ## Communication: wife [**Name (NI) 1828**] (home [**Telephone/Fax (1) 4973**]; cell [**Telephone/Fax (1) 4974**]);
   son [**Name (NI) **] (cell [**0-0-**])
   Wife unable to come in today as she has Strep cx + pharyngitis for
   which she is just initiating tx
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-16**] 09:56 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Multi Lumen - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-15**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-17 09:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated dialysis
   Low-grade temp.
   Versed weaned to off
   RSBI in 60s -> now on SBT
   Patient unable to provide history: Sedated
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-16**] 07:00 PM
   Cefipime - [**2179-9-16**] 08:00 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-9-17**] 08:08 AM
   Ranitidine (Prophylaxis) - [**2179-9-17**] 08:09 AM
   Other medications:
   SQI, SQH, ASA, statin, colace, H2B, Norvasc, Lopressor, vanco,
   cefepime, Flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-17**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 91 (87 - 103) bpm
   BP: 172/61(91) {130/53(76) - 196/73(109)} mmHg
   RR: 24 (24 - 33) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
   CVP: 3 (-5 - 15)mmHg
   Total In:
                                                                  2,417 mL
                                                                    768 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    404 mL
   IVF:
                                                                    657 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  7,025 mL
                                                                      5 mL
   Urine:
                                                                     25 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,608 mL
                                                                    763 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 511 (443 - 511) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 8 cmH2O
   SpO2: 93%
   ABG: 7.40/41/96.[**Numeric Identifier 244**]/24/0
   NIF: -30 cmH2O
   Ve: 14.1 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+, fasciotomy dressing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic:  Does not respond; pupils small, midline, responsive.
   Labs / Radiology
   10.2 g/dL
   532 K/uL
   268 mg/dL
   6.8 mg/dL
   24 mEq/L
   5.1 mEq/L
   80 mg/dL
   98 mEq/L
   136 mEq/L
   30.3 %
   27.3 K/uL
        [image002.jpg]
                             [**2179-9-14**]  06:23 AM
                             [**2179-9-14**]  08:39 AM
                             [**2179-9-14**]  11:54 AM
                             [**2179-9-14**]  05:54 PM
                             [**2179-9-15**]  04:00 AM
                             [**2179-9-15**]  04:17 AM
                             [**2179-9-16**]  03:22 AM
                             [**2179-9-16**]  03:28 AM
                             [**2179-9-16**]  04:20 PM
                             [**2179-9-17**]  03:31 AM
   WBC
   25.8
   25.6
   26.5
   27.3
   Hct
   29.0
   27.4
   28.9
   30.3
   Plt
   [**Telephone/Fax (3) 5085**]32
   Cr
   6.3
   6.3
   6.8
   TCO2
   28
   25
   26
   28
   29
   27
   26
   Glucose
   111
   107
   92
   121
   268
   Other labs: PT / PTT / INR:16.0/27.5/1.4, CK / CKMB /
   Troponin-T:51/4/0.04, ALT / AST:27/24, Alk Phos / T Bili:182/0.9,
   Amylase / Lipase:56/10, Differential-Neuts:62.0 %, Band:9.0 %,
   Lymph:23.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.7 g/dL, LDH:302 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:7.0
   mg/dL
   Imaging: CXR with slight improvement in left base opacity.  ETT remains
   high but is advanced as far as possible with the existing tube.
   Microbiology: C diff (-) x 2; two are pending
   No other new (+) cultures
   Assessment and Plan
   69 y/o man with
          Severe LE infection s/p fasciotomy
          Group A strep bacteremia
          Respiratory failure
          Acute renal failure now on hemodialysis
          Hypertension
          Obesity
          Probable VAP
          Leucocytosis with marked (though somewhat improving) left
   shift
          Difficult airway
   Respiratory Failure
          He did well with his SBT this morning, but is too sedated
   for extubation, particularly given difficult airway.  Will let BZD
   continue to wash out.
          Will discuss with his wife when she is able to come in.
          If not improved, may warrant tracheostomy early next week.
   Leucocytosis and left shift
   His leucocytosis and left shift have not improved to the degree we
   would have hoped.  Although there is some risk of transport and of IV
   contrast , there is a substantial risk of undrained focus of infection
   that we need to try to identify.
          CT head, chest, abdomen, pelvis, and thigh
          Maintain present ABX for VAP x 8 days
          Await C diff cultures
          If CTs are unrevealing, resite and culture all lines
          Discuss further management with infectious disease,
   including consideration of empiric antifungal coverage
   Fasciotomy
   Wound care per surgery and wound care
   ICU Care
   Nutrition: Nutren renal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Multi Lumen - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-15**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin.  We will increase prophylaxis dose
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2179-09-18 05:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Catherter and line changes.  A Line still old  Tips sent for culture
   SBT successful.
   Had increased work of breathing at 10PM and was restated on pressure
   support
   4:15 AM increased work of breathing and diaphoresis, EKG done
   Wife was unable to come [**2-13**] strep throat
   Whole body CT
   Hemodialysis following CT load
   ID recs: 14-21 day course for severe soft tissue infection started on
   [**9-10**]
   SW c/s
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2179-9-17**] 08:00 PM
   Vancomycin - [**2179-9-18**] 12:34 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2179-9-17**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-17**] 09:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-18**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 88 (74 - 92) bpm
   BP: 130/52(72) {101/51(65) - 179/71(103)} mmHg
   RR: 34 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 4 (3 - 12)mmHg
   Total In:
                                                                  1,364 mL
                                                                    610 mL
   PO:
   TF:
                                                                    562 mL
                                                                    255 mL
   IVF:
                                                                    512 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                  6,010 mL
   Urine:
                                                                     45 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,319 mL
                                                                 -5,400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 335 (335 - 599) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI: 36,269
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.28/54/111/24/-1
   NIF: -30 cmH2O
   Ve: 11.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   648 K/uL
   11.2 g/dL
   262 mg/dL
   7.6 mg/dL
   24 mEq/L
   6.6 mEq/L
   84 mg/dL
   97 mEq/L
   138 mEq/L
   33.5 %
   32.0 K/uL
        [image002.jpg]
                             [**2179-9-14**]  11:54 AM
                             [**2179-9-14**]  05:54 PM
                             [**2179-9-15**]  04:00 AM
                             [**2179-9-15**]  04:17 AM
                             [**2179-9-16**]  03:22 AM
                             [**2179-9-16**]  03:28 AM
                             [**2179-9-16**]  04:20 PM
                             [**2179-9-17**]  03:31 AM
                             [**2179-9-18**]  03:30 AM
                             [**2179-9-18**]  03:46 AM
   WBC
   25.8
   25.6
   26.5
   27.3
   32.0
   Hct
   29.0
   27.4
   28.9
   30.3
   33.5
   Plt
   [**Telephone/Fax (3) 5085**]32
   648
   Cr
   6.3
   6.3
   6.8
   7.6
   TCO2
   26
   28
   29
   27
   26
   26
   Glucose
   107
   92
   121
   268
   262
   Other labs: PT / PTT / INR:16.7/30.0/1.5, CK / CKMB /
   Troponin-T:51/4/0.04, ALT / AST:27/24, Alk Phos / T Bili:182/0.9,
   Amylase / Lipase:56/10, Differential-Neuts:62.0 %, Band:9.0 %,
   Lymph:23.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.7 g/dL, LDH:302 IU/L, Ca++:7.7 mg/dL, Mg++:2.5 mg/dL,
   PO4:10.8 mg/dL
   Imaging: Neck: No evidence of fluid collection or abscess identified in
   the
   neck. A right-sided central line is visualized from the internal
   jugular
   region extending to the superior vena cava.
   Chest/Abd/Pelvis: Final read pending
   Prelim -> PNA, trace colon stranding, and 3.2 cm RIGHT RENAL MASS c/w
   RCC
   CXR (for line placement):
   Extremity: Final read pending
   Prelim -> 2 1-cm fluid collections (eg seromas), with thin walls and
   not likely drainable.
   Microbiology: C diff neg x3
   BCX  P
   Tip Cx P
   Assessment and Plan
   69 year old man with DM who presented from OSH with septic shock from
   Group A Strep cellulitis, compartment syndrome s/p LLE fasciotomy, ARF
   thought [**2-13**] ATN on HD, VAP, and leukocytosis w left shift that had
   transiently resolved but is now persistent.
   Plan:
   ##. Leukocytosis with bandemia, uncertain etiology
 currently covering
   broadly with vanc, cefepime, flagyl.  Possibly abscess or parapnemonic
   loculated effusion
   - CT neck to legs today with IV contrast
   - continue current abx, f/u ID recs
   - plan for 8 day course for VAP (per ID, can revert to PCN on [**9-24**])
   - GAS bacteremia course usually 14-21 days although may need to adjust
   in this patient as he remains and may remain acutely ill
   -  d/c subclavian once PICC is placed
   ## Respiratory failure: felt to have VAP; did well from resp standpoint
   but concern for airway protection risk due to AMS which may be [**2-13**]
   sedating meds vs new baseline mental status; no growth to date for
   cultures
   - continue to follow cultures
   - cont treatment for VAP with vanc, cefepime
   - wean sedatives
   - CT today to look for effusion vs persistent PNA
   .
   ## Acute renal failure due to ischemic ATN +/- very mild rhabdomyolysis
   in the setting of septic shock; now on HD making very minimal urine;
   all meds are concentrated aside from fentanyl (attempting to wean) and
   vanco; not improving
 plan for q3 HD
   - will need HD after IV contrast for CT
   - vanc, cefepime dosing per HD protocol
   - renal feels HD cath is too proximal and therefore not effective,
   renal plans to change line for proper positioning prior to CT scan so
   patient can be dialyzed after CT
   .
   ## Type 2 diabetes mellitus
 Hyperglycemic for past 24 hours.
   Currently on 80/60 NPH plus sliding scale
   - Titrate up NPH for improved glycemic control
   .
   ## Hypertension: Multiple home BP meds have been held [**2-13**] poor
   tolerance in setting of renal failure; unable to wean fentanyl because
   patient becomes very hypertensive (low 200s) with any movement or
   agitation; currently receiving amlodipine 10mg daily, metoprolol 25mg
   [**Hospital1 **]
   - HD today as above
   - increase metoprolol to 50 [**Hospital1 **]
   - continue amlodipine
   .
   ## Compartment syndrome s/p fasciotomy
 dressings as per instructed by
   wound care; plastics have evaluated and feel there is no current role
   for their intervention
   - follow wound care recs
   - gen [**Doctor First Name 458**] recs
   .
   ## Hyperlipidemia: cont statin
   .
   ## FEN: tube feeds with free water flushes
   ## ICU Care: SC heparin for DVT prophylaxis (increased to 7500 TID for
   patient habitus); ranitidine for stress ulcer prophylaxis
   ## Lines: right subclavian (once PICC placed, d/c subclavian), left HD
   triple-lumen, left ART line (change)
   ## Communication: wife [**Name (NI) 1828**] (home [**Telephone/Fax (1) 4973**]; cell [**Telephone/Fax (1) 4974**]);
   son [**Name (NI) **] (cell [**0-0-**])
   Wife unable to come in today as she has Strep cx + pharyngitis for
   which she is just initiating tx
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-16**] 09:56 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   18 Gauge - [**2179-9-17**] 10:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-19 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -changed ART line
   -family meeting to discuss current care, state of health and CT scan
   findings of renal mass
 BLOOD CULTURED - At [**2179-9-18**] 08:00 AM
 EKG - At [**2179-9-18**] 09:08 AM
 ULTRASOUND RUQ - At [**2179-9-18**] 03:01 PM
 FEVER - 102.0
F - [**2179-9-18**] 03:00 PM (cultured and given Tylenol)
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-18**] 01:30 PM
   Tobramycin - [**2179-9-18**] 02:00 PM
   Cefipime - [**2179-9-18**] 03:31 PM
   Meropenem - [**2179-9-18**] 04:31 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 12 units/hour
   Fentanyl - 165 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2179-9-18**] 08:12 AM
   Dextrose 50% - [**2179-9-18**] 10:28 AM
   Insulin - Regular - [**2179-9-18**] 10:29 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-18**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-19**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.4
C (99.3
   HR: 104 (88 - 106) bpm
   BP: 152/59(81) {80/45(56) - 152/60(107)} mmHg
   RR: 21 (20 - 26) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  3,722 mL
                                                                    807 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    361 mL
   IVF:
                                                                  1,752 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  6,910 mL
                                                                      5 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,188 mL
                                                                    802 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 0 (0 - 635) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.32/52/119/24/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Gen: Intubated and sedated. Non responsive.
   Heent: NCAT, PERRL, MM dry, intact
   CV: tachy, no MRG
   Lungs: CTA
   Abd: obese, soft, +BS
   Ext: LLE dressed, L thigh erythema improved, no crepitus, dps 2+ bl
   Rectal tube in place draining dark green liquid stools
   Foley in place containing 5ccs of frankly bloody fluid
   Labs / Radiology
   638 K/uL
   9.7 g/dL
   171 mg/dL
   8.0 mg/dL
   24 mEq/L
   4.8 mEq/L
   94 mg/dL
   101 mEq/L
   143 mEq/L
   29.6 %
   23.7 K/uL
        [image002.jpg]
                             [**2179-9-18**]  03:46 AM
                             [**2179-9-18**]  05:12 AM
                             [**2179-9-18**]  08:23 AM
                             [**2179-9-18**]  09:54 AM
                             [**2179-9-18**]  01:03 PM
                             [**2179-9-18**]  03:11 PM
                             [**2179-9-18**]  03:18 PM
                             [**2179-9-18**]  09:28 PM
                             [**2179-9-19**]  03:10 AM
                             [**2179-9-19**]  03:35 AM
   WBC
   23.7
   Hct
   29.6
   Plt
   638
   Cr
   6.4
   8.0
   TCO2
   26
   27
   28
   27
   27
   29
   28
   28
   Glucose
   170
   171
   Other labs: PT / PTT / INR:16.7/30.0/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:79.0 %, Band:2.0 %,
   Lymph:11.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:10.2 mg/dL
   Assessment and Plan
   69 year old man with DM who presented from OSH with septic shock from
   Group A Strep cellulitis, compartment syndrome s/p LLE fasciotomy, ARF
   thought [**2-13**] ATN on HD, VAP, and leukocytosis w left shift that had
   transiently resolved but is now persistent.
   Plan:
   ##. Leukocytosis with left shift and fever, uncertain etiology
   currently covering broadly with vanc, cefepime, flagyl.  CT largely
   unrevealing but may still have abscess that was not adequately
   visualized. Other etiologies include drug fever, malignancy, MDS.
   Cycled lines.
   - f/u ID recs
   - d/c
d tobramycin after one dose
   -added meropenem
   -would cultures to be sent today
   -discuss possibility of pelvic stranding as representative of evolving
   abscess with surgery and/or radiology
   ## Respiratory failure: Treating for VAP, did poorly o/n from resp
   standpoint with need for increasing support
   - continue to follow cultures
   - cont treatment for VAP with vanc, d/c cefepime (treatment for VAP
   will be complete [**9-20**] although will need further empiric coverage if no
   source is found), add meropenem
   - wean sedatives, vent as able
   .
   ## Acute renal failure due to ischemic ATN +/- very mild rhabdomyolysis
   in the setting of septic shock; now on HD making very minimal urine;
   all meds are concentrated aside from fentanyl (attempting to wean) and
   vanco; not improving
 plan for q3 HD. Dialyzed [**9-17**]. Not improving.
   -          Vanc dosing per HD protocol, meds renally dosed
   -          Renal recs
 is this still thought to be reversible?
   .
   ## Type 2 diabetes mellitus
 Hyperglycemic . Insulin gtt at 12u/hr
   with FSBS in the 160s
   - set FSBS around 120, titrate gtt.
   ## Compartment syndrome s/p fasciotomy
 dressings as per instructed by
   wound care; plastics have evaluated and feel there is no current role
   for their intervention
   - follow wound care recs
 change to [**Hospital1 **] dressings
   - call gen [**Doctor First Name 458**] to eval leg PRN
 will ask them to follow daily
   .
   ## Hyperlipidemia:  Statin has been d/c
   ##. Renal Mass c/w RCC: Discussed with family. Will need outpatient
   follow up.
   .
   ## FEN: tube feeds with free water flushes
   ## ICU Care: SC heparin for DVT prophylaxis (increased to 7500 TID for
   patient habitus); ranitidine for stress ulcer prophylaxis
   ## Lines: subclavin ([**9-17**]), HD line ([**9-17**]), ART ([**9-18**])
   ## Communication: wife [**Name (NI) 1828**] (home [**Telephone/Fax (1) 4973**]; cell [**Telephone/Fax (1) 4974**]);
   son [**Name (NI) **] (cell [**0-0-**])
   Wife unable to come in yesterday as she has Strep cx + pharyngitis for
   which she is just initiating tx
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-18**] 10:42 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-19 08:11:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2179-9-18**] 08:00 AM
 EKG - At [**2179-9-18**] 09:08 AM
 ULTRASOUND - At [**2179-9-18**] 03:01 PM
 FEVER - 102.0
F - [**2179-9-18**] 03:00 PM
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-18**] 01:30 PM
   Tobramycin - [**2179-9-18**] 02:00 PM
   Cefipime - [**2179-9-18**] 03:31 PM
   Meropenem - [**2179-9-18**] 04:31 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 12 units/hour
   Fentanyl - 165 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2179-9-18**] 08:12 AM
   Dextrose 50% - [**2179-9-18**] 10:28 AM
   Insulin - Regular - [**2179-9-18**] 10:29 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-18**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-19**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.2
   HR: 107 (88 - 108) bpm
   BP: 138/56(78) {80/45(56) - 152/60(107)} mmHg
   RR: 22 (20 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
   CVP: 4 (4 - 13)mmHg
   Total In:
                                                                  3,722 mL
                                                                    947 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    408 mL
   IVF:
                                                                  1,752 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  6,910 mL
                                                                    605 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,188 mL
                                                                    342 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 630) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.32/52/119/24/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   638 K/uL
   171 mg/dL
   8.0 mg/dL
   24 mEq/L
   4.8 mEq/L
   94 mg/dL
   101 mEq/L
   143 mEq/L
   29.6 %
   23.7 K/uL
        [image002.jpg]
                             [**2179-9-18**]  03:46 AM
                             [**2179-9-18**]  05:12 AM
                             [**2179-9-18**]  08:23 AM
                             [**2179-9-18**]  09:54 AM
                             [**2179-9-18**]  01:03 PM
                             [**2179-9-18**]  03:11 PM
                             [**2179-9-18**]  03:18 PM
                             [**2179-9-18**]  09:28 PM
                             [**2179-9-19**]  03:10 AM
                             [**2179-9-19**]  03:35 AM
   WBC
   23.7
   Hct
   29.6
   Plt
   638
   Cr
   6.4
   8.0
   TCO2
   26
   27
   28
   27
   27
   29
   28
   28
   Glucose
   170
   171
   Other labs: PT / PTT / INR:16.7/30.0/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:79.0 %, Band:2.0 %,
   Lymph:11.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:10.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   69 y/o man with
          Severe LE infection s/p fasciotomy
          Group A strep bacteremia
          Respiratory failure
          Acute renal failure now on hemodialysis
          Hypertension
          Obesity
          Probable VAP
          Leucocytosis with marked (though somewhat improving) left
   shift
          Difficult airway
   ILeucocytosis and left shift: very concerning today as his overall BP
   trend is down moving towards a septic picture with profound
   leucocytosis
   CT head, neck, and chest not impressive. Unclear what to make of small
   area of stranding in peliv near sigmois. Will discuss with Gen [**Doctor First Name **].
   Await final read on thigh CT but appears they may be too small to drain
 would still like Gne [**Doctor First Name **] to return to eval wounds themselves as a
   potential foci.
   At this pint we have pan cultured changed all lines (except Aline which
   we will change today.
   Given clinical deterioration would add a 2nd GNR covering ABX
 Tobra
   or [**Last Name (un) **].
   Send blood cx for fungal isolators. Discuss with ID role of empiric
   antifungals.
   Only other ICU source would be acacl choly and GB looks big by CT-
   repeat LFTs and get ABd US.
   Could do mini Bal for sputum Cx but CXR and CT really not support this
   as a source.
   ARF: For HD today
 does have significant hyperK of unclear etiology.
   Did get dye load yesterday but was give HD after so does not make
   sense. We are checking CKs [**Last Name (un) 5165**] to make sure now evidence of muscle
   injury as a oitentila source.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-18**] 10:42 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2179-09-20 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Wound culture- gram stain neg
   - Cultured cath tip
   - Discussed CT findings of both LLE and abd stranding with gen [**Doctor First Name 458**].
   Feel that neither issue requires further surgical workup.  Signed off
   - Following dressing change, pt appeared to be in pain.  Became
   hypertensive.  Gave one time dose of 25mg metoprolol with good
   results.
   - Overnight, pt was fighting the vent and per resp therapist was
   auto-peeping.  Adjusted settings and gave pt additional bolus of
   ativan.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-18**] 01:30 PM
   Tobramycin - [**2179-9-18**] 02:00 PM
   Cefipime - [**2179-9-18**] 03:31 PM
   Meropenem - [**2179-9-19**] 02:21 PM
   Infusions:
   Fentanyl - 175 mcg/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2179-9-19**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-19**] 09:55 PM
   Fentanyl - [**2179-9-20**] 04:27 AM
   Midazolam (Versed) - [**2179-9-20**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 93 (76 - 108) bpm
   BP: 153/58(83) {124/46(66) - 181/67(99)} mmHg
   RR: 22 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 7 (3 - 11)mmHg
   Total In:
                                                                  2,605 mL
                                                                    720 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    328 mL
   IVF:
                                                                  1,005 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    850 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,995 mL
                                                                   -130 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.31/47/155/21/-2
   Ve: 12 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   600 K/uL
   8.8 g/dL
   117 mg/dL
   10.2 mg/dL
   21 mEq/L
   5.2 mEq/L
   134 mg/dL
   100 mEq/L
   144 mEq/L
   26.3 %
   17.4 K/uL
        [image002.jpg]
                             [**2179-9-18**]  01:03 PM
                             [**2179-9-18**]  03:11 PM
                             [**2179-9-18**]  03:18 PM
                             [**2179-9-18**]  09:28 PM
                             [**2179-9-19**]  03:10 AM
                             [**2179-9-19**]  03:35 AM
                             [**2179-9-19**]  01:16 PM
                             [**2179-9-19**]  03:12 PM
                             [**2179-9-20**]  03:10 AM
                             [**2179-9-20**]  03:12 AM
   WBC
   23.7
   17.4
   Hct
   29.6
   26.3
   Plt
   638
   600
   Cr
   6.4
   8.0
   9.1
   10.2
   TCO2
   27
   29
   28
   28
   27
   25
   Glucose
   170
   171
   165
   117
   Other labs: PT / PTT / INR:16.7/30.0/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:79.0 %, Band:2.0 %,
   Lymph:11.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:11.7 mg/dL
   Assessment and Plan
   69 year old man with DM who presented from OSH with septic shock from
   Group A Strep cellulitis, compartment syndrome s/p LLE fasciotomy, ARF
   thought [**2-13**] ATN on HD, VAP, and leukocytosis w left shift that had
   transiently resolved but is now persistent.
   Plan:
   ##. Leukocytosis with left shift and fever, uncertain etiology
   currently covering broadly with vanc, cefepime, flagyl.  CT largely
   unrevealing but may still have abscess that was not adequately
   visualized. Other etiologies include drug fever, malignancy, MDS.
   Cycled lines.
   - f/u ID recs
   - d/c
d tobramycin after one dose
   -added meropenem
   -would cultures to be sent today
   -discuss possibility of pelvic stranding as representative of evolving
   abscess with surgery and/or radiology
   ## Respiratory failure: Treating for VAP, did poorly o/n from resp
   standpoint with need for increasing support
   - continue to follow cultures
   - cont treatment for VAP with vanc, d/c cefepime (treatment for VAP
   will be complete [**9-20**] although will need further empiric coverage if no
   source is found), add meropenem
   - wean sedatives, vent as able
   .
   ## Acute renal failure due to ischemic ATN +/- very mild rhabdomyolysis
   in the setting of septic shock; now on HD making very minimal urine;
   all meds are concentrated aside from fentanyl (attempting to wean) and
   vanco; not improving
 plan for q3 HD. Dialyzed [**9-17**]. Not improving.
   -          Vanc dosing per HD protocol, meds renally dosed
   -          Renal recs
 is this still thought to be reversible?
   .
   ## Type 2 diabetes mellitus
 Hyperglycemic . Insulin gtt at 12u/hr
   with FSBS in the 160s
   - set FSBS around 120, titrate gtt.
   ## Compartment syndrome s/p fasciotomy
 dressings as per instructed by
   wound care; plastics have evaluated and feel there is no current role
   for their intervention
   - follow wound care recs
 change to [**Hospital1 **] dressings
   - call gen [**Doctor First Name 458**] to eval leg PRN
 will ask them to follow daily
   .
   ## Hyperlipidemia:  Statin has been d/c
   ##. Renal Mass c/w RCC: Discussed with family. Will need outpatient
   follow up.
   .
   ## FEN: tube feeds with free water flushes
   ## ICU Care: SC heparin for DVT prophylaxis (increased to 7500 TID for
   patient habitus); ranitidine for stress ulcer prophylaxis
   ## Lines: subclavin ([**9-17**]), HD line ([**9-17**]), ART ([**9-18**])
   ## Communication: wife [**Name (NI) 1828**] (home [**Telephone/Fax (1) 4973**]; cell [**Telephone/Fax (1) 4974**]);
   son [**Name (NI) **] (cell [**0-0-**])
   Wife unable to come in yesterday as she has Strep cx + pharyngitis for
   which she is just initiating tx
   ## Code: Full
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-19**] 10:05 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-20 10:53:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
   episodes of hypoxemia and dyssynchrony
   Patient unable to provide history: Sedated
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-18**] 01:30 PM
   Tobramycin - [**2179-9-18**] 02:00 PM
   Cefipime - [**2179-9-18**] 03:31 PM
   Meropenem - [**2179-9-19**] 02:21 PM
   Infusions:
   Insulin - Regular - 5 units/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-9-20**] 06:01 AM
   Fentanyl - [**2179-9-20**] 08:13 AM
   Ranitidine (Prophylaxis) - [**2179-9-20**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-20**] 08:16 AM
   Other medications:
   asa, CHG, timolol, Flagyl, docusate, H2B, SQH, insulin infusion,
   meropenem, metoprolol, calcium acetate, aluminum hydroxide
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-20**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 95 (76 - 106) bpm
   BP: 159/61(89) {124/46(66) - 181/68(99)} mmHg
   RR: 22 (16 - 23) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
   CVP: 8 (3 - 11)mmHg
   Total In:
                                                                  2,605 mL
                                                                  1,093 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    504 mL
   IVF:
                                                                  1,005 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    850 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,995 mL
                                                                    243 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.31/47/155/21/-2
   Ve: 14.6 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam only)
   Extremities: Right: 1+, Left: fasciotomy dressing
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, improved responsiveness compared when I last saw him on Friday
   Labs / Radiology
   8.8 g/dL
   600 K/uL
   117 mg/dL
   10.2 mg/dL
   21 mEq/L
   5.2 mEq/L
   134 mg/dL
   100 mEq/L
   144 mEq/L
   26.3 %
   17.4 K/uL
        [image002.jpg]
                             [**2179-9-18**]  01:03 PM
                             [**2179-9-18**]  03:11 PM
                             [**2179-9-18**]  03:18 PM
                             [**2179-9-18**]  09:28 PM
                             [**2179-9-19**]  03:10 AM
                             [**2179-9-19**]  03:35 AM
                             [**2179-9-19**]  01:16 PM
                             [**2179-9-19**]  03:12 PM
                             [**2179-9-20**]  03:10 AM
                             [**2179-9-20**]  03:12 AM
   WBC
   23.7
   17.4
   Hct
   29.6
   26.3
   Plt
   638
   600
   Cr
   6.4
   8.0
   9.1
   10.2
   TCO2
   27
   29
   28
   28
   27
   25
   Glucose
   170
   171
   165
   117
   Other labs: PT / PTT / INR:16.7/30.0/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:79.0 %, Band:2.0 %,
   Lymph:11.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:11.7 mg/dL
   Assessment and Plan
   69 y/o man with
          Severe LE infection s/p fasciotomy
          Group A strep bacteremia
          Respiratory failure
          Acute renal failure now on hemodialysis
          Hypertension
          Obesity
          Probable VAP
          Leucocytosis with marked (though somewhat improving) left
   shift
          Difficult airway
   Ongoing leucocytosis and low-grade fevers remain concerning, though we
   have finally seen some progress in his white count.  Appreciate ID
   help.  We will treat skin/soft tissue infection and presumptive VAP,
   then d/c antibiotics unless a new site is identified.
   Respiratory failure:  his sedation is at a reasonable level right now.
    After hemodialysis today, we will attempt [**Year (4 digits) **] today and tomorrow.  We
   will start a Duragesic patch and try to reduce the fentanyl infusion.
   If he does not tolerate [**Last Name (LF) **], [**First Name3 (LF) 178**] discuss with his wife and consider
   tracheostomy.
   Acute renal failure:  hemodialysis today
   Diabetes: on insulin infusion for control
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2179-09-20 23:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Discussed CT finding swith [**Doctor First Name 458**].  Per them, no further surgical w/u
   required
   Pain with dressing change
   Metoprolol for hypertension with good effect
   Two episodes of fighting the vent and auto-peep.  Adjusted vent
   settings and gave ativan.  ? obstructive lung disease
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-18**] 01:30 PM
   Tobramycin - [**2179-9-18**] 02:00 PM
   Cefipime - [**2179-9-18**] 03:31 PM
   Meropenem - [**2179-9-20**] 03:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-9-20**] 06:01 AM
   Ranitidine (Prophylaxis) - [**2179-9-20**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-20**] 04:00 PM
   Fentanyl - [**2179-9-20**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-20**] 11:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 77 (76 - 106) bpm
   BP: 163/61(88) {124/46(66) - 173/71(99)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 6 (3 - 9)mmHg
   Total In:
                                                                  2,605 mL
                                                                  2,399 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                  1,143 mL
   IVF:
                                                                  1,005 mL
                                                                    945 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                  3,895 mL
   Urine:
                                                                     10 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,995 mL
                                                                 -1,496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 712 (581 - 712) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 26 cmH2O
   Plateau: 14 cmH2O
   Compliance: 91.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/53/138/21/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 345
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   600 K/uL
   8.8 g/dL
   117 mg/dL
   10.2 mg/dL
   21 mEq/L
   5.2 mEq/L
   77 mg/dL
   100 mEq/L
   144 mEq/L
   27.8 %
   17.4 K/uL
        [image002.jpg]
                             [**2179-9-18**]  09:28 PM
                             [**2179-9-19**]  03:10 AM
                             [**2179-9-19**]  03:35 AM
                             [**2179-9-19**]  01:16 PM
                             [**2179-9-19**]  03:12 PM
                             [**2179-9-20**]  03:10 AM
                             [**2179-9-20**]  03:12 AM
                             [**2179-9-20**]  04:58 PM
                             [**2179-9-20**]  05:24 PM
                             [**2179-9-20**]  09:43 PM
   WBC
   23.7
   17.4
   Hct
   29.6
   26.3
   27.8
   Plt
   638
   600
   Cr
   8.0
   9.1
   10.2
   TCO2
   28
   28
   27
   25
   31
   29
   Glucose
   171
   165
   117
   Other labs: PT / PTT / INR:16.7/30.0/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:11.7 mg/dL
   Assessment and Plan
   69 M with DM, recent septic shock (group A strep), compartment syndrome
   s/p fasciotomy, ARF, VAP, leukocytosis.
   Leukocytosis - improving.  Ddx inculdes VAP vs. residual GA Strep.  CT
   showed GI stranding, small leg collections, all unlikely culprets
   - D/C flagyl as r/o for C. diff
   - Cont Vanc/Meropenem
   - f/u cultures
   Respiratory distress/intubation
   - Cont VAP ABX for 8 day course
   - Alb/Ipt nebs
   - Will trial pressure support today and SBT in anticipation of
   extubation.  If unable, will consider for trach.
   RCC - Based on CT findings
   - outpt f/u
   Pain
   - Cont fentanyl gtt.
   - Start fentany patch in anticiapation of weaning drip post extubation
   - consider pain consult
   Hypertension
   - Restart beta-blockade, metoprolol 25 mg [**Hospital1 **]
   - pain control
   ARF
   - HD today
   - Add phos binder
   - Check Hct post HD
   Diabetes
   - Continue Insulin gtt.
   Compartment syndrome
   - Wound care recs, [**Hospital1 **] dressings
   Hyperlipidemia
   - statin
   FEN:
   - tube feeds, free water flushes
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-20**] 09:54 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will update wife today
   [**Name2 (NI) 66**] status: Full code
   Disposition:ICU

2179-09-21 05:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hemodyalisis s/p 3L off
   Switched to pressure support at 4PM.  ABG 7.32/52/138.  Returned to AC
   to prevent fatigue at 10PM.  Goal to SBT at 6AM and decide extubation
   Started on Fentynal patch.
   SBT 4AM -> Apnic
   Metoprolol uptitrated to TID
   Reordered T&S.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-18**] 01:30 PM
   Tobramycin - [**2179-9-18**] 02:00 PM
   Cefipime - [**2179-9-18**] 03:31 PM
   Meropenem - [**2179-9-20**] 03:00 PM
   Infusions:
   Fentanyl - 80 mcg/hour
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-9-20**] 06:01 AM
   Ranitidine (Prophylaxis) - [**2179-9-20**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-20**] 04:00 PM
   Fentanyl - [**2179-9-21**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-21**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 81 (74 - 106) bpm
   BP: 174/63(95) {139/54(76) - 180/71(101)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 1 (1 - 9)mmHg
   Total In:
                                                                  2,482 mL
                                                                    504 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    265 mL
   IVF:
                                                                    972 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  3,895 mL
                                                                     45 mL
   Urine:
                                                                     45 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,413 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 712 (581 - 712) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/48/119/25/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Gen: Opens eyes, eye contact but no tracking, does not follow commands,
   appears comfortable
   HEENT: NCAT, pupils pinpoint, but equal and reactive, MMMI
   CV: RRR no MRG, nl S1, S2
   Lungs: CTA b/l
   Abd: obese, nondistended + BS
   Ext: LLE wrapped with dressing C/D/I, no crepitus, 1+ dps, warm
   Labs / Radiology
   664 K/uL
   9.1 g/dL
   107 mg/dL
   8.1 mg/dL
   25 mEq/L
   4.7 mEq/L
   103 mg/dL
   102 mEq/L
   142 mEq/L
   27.5 %
   15.9 K/uL
        [image002.jpg]
                             [**2179-9-19**]  03:35 AM
                             [**2179-9-19**]  01:16 PM
                             [**2179-9-19**]  03:12 PM
                             [**2179-9-20**]  03:10 AM
                             [**2179-9-20**]  03:12 AM
                             [**2179-9-20**]  04:58 PM
                             [**2179-9-20**]  05:24 PM
                             [**2179-9-20**]  09:43 PM
                             [**2179-9-21**]  02:18 AM
                             [**2179-9-21**]  02:25 AM
   WBC
   17.4
   15.9
   Hct
   26.3
   27.8
   27.5
   Plt
   600
   664
   Cr
   9.1
   10.2
   8.1
   TCO2
   28
   27
   25
   31
   29
   28
   Glucose
   165
   117
   107
   Other labs: PT / PTT / INR:16.5/30.8/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:76.7 %, Band:0.0 %,
   Lymph:17.8 %, Mono:4.5 %, Eos:0.7 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:8.5
   mg/dL
   Assessment and Plan
   69 M with DM, recent septic shock (group A strep), compartment syndrome
   s/p fasciotomy, ARF, VAP, leukocytosis.
   Leukocytosis - improving.  Likely [**2-13**] VAP with ESBL GNR, GAS bateremia.
   Improved with addition of meropenem.
   - Cont Vanc/Meropenem, vanc level with HD, dosing per protocol
   - f/u cultures
   - begin 15 day treatment course for ESBL with 1^st day of meropenem [**9-18**]
   Respiratory distress/intubation
 failed SBT, likely [**2-13**] sedation vs
   primary central disease. Improved from a VAP stand point with addition
   of meropenem
   - cont vanc/meropenem as above
   - Alb/Ipt nebs
   - d/c fentanyl drip today, bolus only for pain
 haldol for agitation
   -reassess for extubation this pm, if not possible
 begin discussion
   and planning re: trach
   Hypertension
   - Restart beta-blockade, metoprolol 25 mg [**Hospital1 **]
   - pain control
   ARF
 Not improving, anuric. On Aluminum for 3 days for hyperphos
   - HD [**9-22**], goal 5 hours
   - will d/c aluminum when phos < 6 and will then increase phoslo to 2
   TID and add sevelamer 800 TID
   Diabetes
   - Continue Insulin gtt.
   Compartment syndrome
   - Wound care recs, [**Hospital1 **] dressings
   Hyperlipidemia - statin d/c
d in setting of acute illness with elevated
   CK
   - reassess when more stable
   RCC - Based on CT findings
   - outpt f/u
   FEN:
   - tube feeds, free water flushes
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-21**] 01:02 AM 50 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments: wife and son
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2179-09-21 10:24:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated hemodialysis
   PSV yesterday.  This a.m. apneic with PSV.
   Sedation weaned.
   Metoprolol titrated up
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-9-18**] 01:30 PM
   Tobramycin - [**2179-9-18**] 02:00 PM
   Cefipime - [**2179-9-18**] 03:31 PM
   Meropenem - [**2179-9-20**] 03:00 PM
   Infusions:
   Fentanyl - 70 mcg/hour
   Insulin - Regular - 7 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-9-20**] 04:00 PM
   Fentanyl - [**2179-9-21**] 03:00 AM
   Other medications:
   asa, h2b, fentanyl, vanco, SQH, SQI, [**Last Name (un) 430**], phoslo, renagel, duragesic
   100, lopressor 25 tid, CHG
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-21**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 84 (74 - 95) bpm
   BP: 157/55(82) {139/54(77) - 180/71(101)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
   CVP: 4 (2 - 9)mmHg
   Total In:
                                                                  2,482 mL
                                                                    890 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    499 mL
   IVF:
                                                                    972 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  3,895 mL
                                                                     45 mL
   Urine:
                                                                     45 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,413 mL
                                                                    845 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 713 (581 - 769) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.33/50/145/25/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: dressing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   664 K/uL
   107 mg/dL
   8.1 mg/dL
   25 mEq/L
   4.7 mEq/L
   103 mg/dL
   102 mEq/L
   142 mEq/L
   27.5 %
   15.9 K/uL
        [image002.jpg]
                             [**2179-9-19**]  01:16 PM
                             [**2179-9-19**]  03:12 PM
                             [**2179-9-20**]  03:10 AM
                             [**2179-9-20**]  03:12 AM
                             [**2179-9-20**]  04:58 PM
                             [**2179-9-20**]  05:24 PM
                             [**2179-9-20**]  09:43 PM
                             [**2179-9-21**]  02:18 AM
                             [**2179-9-21**]  02:25 AM
                             [**2179-9-21**]  06:53 AM
   WBC
   17.4
   15.9
   Hct
   26.3
   27.8
   27.5
   Plt
   600
   664
   Cr
   9.1
   10.2
   8.1
   TCO2
   27
   25
   31
   29
   28
   28
   Glucose
   165
   117
   107
   Other labs: PT / PTT / INR:16.5/30.8/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:76.7 %, Band:0.0 %,
   Lymph:17.8 %, Mono:4.5 %, Eos:0.7 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:8.5
   mg/dL
   Assessment and Plan
   69 y/o man with
          Severe LE infection s/p fasciotomy
          Group A strep bacteremia
          Respiratory failure
          Acute renal failure now on hemodialysis
          Hypertension
          Obesity
          Probable VAP
          Leucocytosis with marked (though somewhat improving) left
   shift
          Difficult airway
   We are finally making progress with his leucocytosis and marked left
   shift.  The overall pattern is consistent with an ESBL-producing
   organism that we did not grow, since his leucocytosis only started to
   improve after changing from Zosyn to meropenem.  We will complete a
   15-day course for presumptive highly resistant gram-negative-rod VAP.
   Respiratory failure
   Main issue remains balancing pain control and respiratory/mental status
   depression.  We will stop his fentanyl infusion today and re-assess.
   If he does not tolerate SBT today, we will discuss with his wife
   regarding tracheostomy.
   Acute renal failure
   Hemodialysis per renal
   Diabetes
   On insulin infusion for control
   Communication
   We have discussed his status with his wife by phone.  She has not been
   able to come to the hospital, although we have encouraged her to do
   so.  Social work consult.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-21**] 01:02 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2179-09-22 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Today is pt
s 70^th birthday
   -did well on 0/7 yesterday with fentanyl boluses only (no standing), on
   [**8-20**] overnight, back on 0/7 this am.  Will proceed with SBT this am but
   unlikely to extubate today.
   -Required 170 mcg of fentanyl in 12 hrs.  [**Month (only) 60**] need to consider
   restarting gtt
   -gave metoprolol 25mg NG once  for SBPs in the 180s
   -Gave Haldol x 1 for agitation
   -Making, some urine; HD today ([**9-22**])- plan to remove 1kg
   -Per renal, phos still high (9.4), continue aluminum hydroxide for [**3-16**]
   days till <6.  Once phos is <6, increase phoslo to 3 TID
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-21**] 02:30 PM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Fentanyl - [**2179-9-21**] 10:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-22**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 74 (74 - 95) bpm
   BP: 155/57(83) {137/55(79) - 179/68(101)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 8 (1 - 11)mmHg
   Total In:
                                                                  1,833 mL
                                                                    402 mL
   PO:
   TF:
                                                                    850 mL
                                                                    247 mL
   IVF:
                                                                    523 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                    135 mL
   Urine:
                                                                    240 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,593 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 710 (483 - 940) mL
   PS : 7 cmH2O
   RR (Set): 10, breathing over vent
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.35/44/120 (6:45am)
   Ve: 9.4 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Gen: Opens eyes, eye contact but no tracking, does not follow commands,
   appears agitated
   HEENT: NCAT, pupils pinpoint, but equal and reactive, MMMI
   CV: RRR no MRG, nl S1, S2
   Lungs: CTA b/l
   Abd: obese, nondistended + BS
   Ext: LLE with wound vac in place; serosang fluid in container of vac
   Labs / Radiology
   671 K/uL
   8.7 g/dL
   172 mg/dL
   9.4 mg/dL
   23 mEq/L
   5.4 mEq/L
   140 mg/dL
   101 mEq/L
   142 mEq/L
   26.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2179-9-20**]  04:58 PM
                             [**2179-9-20**]  05:24 PM
                             [**2179-9-20**]  09:43 PM
                             [**2179-9-21**]  02:18 AM
                             [**2179-9-21**]  02:25 AM
                             [**2179-9-21**]  06:53 AM
                             [**2179-9-21**]  12:06 PM
                             [**2179-9-21**]  06:43 PM
                             [**2179-9-21**]  10:20 PM
                             [**2179-9-22**]  01:51 AM
   WBC
   15.9
   13.4
   Hct
   27.8
   27.5
   26.0
   Plt
   664
   671
   Cr
   8.1
   9.4
   TCO2
   31
   29
   28
   28
   28
   27
   25
   Glucose
   107
   172
   Differential-Neuts:75.6 %, Band:0.0 %, Lymph:18.2 %, Mono:4.7 %,
   Eos:0.9 %,
   Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:9.6 mg/dL (free Ca on [**9-21**] 1.11)
   Assessment and Plan
   70 M with DM, recent septic shock (group A strep), compartment syndrome
   s/p fasciotomy, ARF, VAP, leukocytosis.
   1.  Respiratory distress/intubation: Difficulty weaning from vent.
   Possibly due to increased sedation vs primary central disease.
   - Have weaned down to 7 of PS and 0 of PEEP with an FiO2 40%.  Goal has
   been to perform SBT today with hope of extubation.  Unclear is pt will
   be able to be extubated.  If not, will contact gen [**Name2 (NI) 458**] re trach
   today.  Will make decision regarding extubation today.  Will need to
   talk to family about trach.
   - Continue treating VAP with meropenem
   - Alb/Ipt nebs
   - Has been off the fentanyl drip and only receiving boluses only for
   pain
 also gave haldol for agitation.  Still requiring high doses of
   fentanyl.  Do not want to start other pain meds for concern of
   increasing sedation.
   2.  ID: Pneumonia, most likely VAP [**2-13**] ESBL GNR as well as GAS
   bateremia.
   - Pt
s improvement with meropenem leads to belief that GNR was ESBL.
   Will need 8 days of meropenem (day 1 [**9-18**])
   - Can d/c vanc today ([**9-22**]), no evidence to suggest continuing gram
   positive infection
   3.  Hypertension
   - Restart beta-blockade, metoprolol 25 mg TID with only minimal
   results.  Pt had one episode of hypotension so have been cautious
   regarding beta blockers.  However, her SBPs remain very high and he may
   benefit from increased anti-hypertensives.  Has required one time doses
   of prn metoprolol for pressure control.
   - Htn may be related to pain; controlling pain may help bring pressures
   down
   - HD removal of fluid also helps htn
   4.  ARF: Slightly improved; making urine.  Still hyperphosphatemic and
   BUN remains very elevated despite HD.  HD may not be adequately
   removing urea/solutes.  Following today
s HD, will re-eval BUN, lytes
   and will consider CVVH.
   - On Aluminum for 3 days for hyperphos as well as phoslo
   - will d/c aluminum when phos < 6 and will then increase phoslo to 2
   TID and add sevelamer 800 TID
   5.  Diabetes
   - Continue Insulin gtt.  Will consider switching to subq when pt is
   more stable and is not frequently NPO for possible extubation.
   6.  LLE wound: s/p compartment syndrome and fasciotomy
   - Wound care restarted wound vac yesterday ([**9-21**]).  Wound care will
   alert team when enough granulation tissue is present for grafting by
   plastics.
   - Pain: can consider consulting pain service for further
   recommendations.  Will given standing Tylenol.  If restarting fentanyl
   gtt, need to d/c fentanyl patch.
   7.  Hyperlipidemia - statin d/c
d in setting of acute illness with
   elevated CK
   - reassess when more stable
   8.  RCC - Based on CT findings
   - outpt f/u
   9.  FEN: Recently has been NPO for possible extubation.
   - tube feeds, free water flushes
   10. Communication: Only with wife and son
   -[**Name (NI) 440**] for family meeting today at 3pm
   ICU Care
   Nutrition: Tube feed
   Glycemic Control:  Insulin gtt
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT:  subq hep
   Stress ulcer:  Zantac
   VAP:  On Meropenem
   Code status: Full code
   Disposition: To ICU

2179-09-22 09:18:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated SBT but still sedated yesterday.  Fentanyl infusion held
   VAC restarted
   Making some urine
   History obtained from Medical records, ICU team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-21**] 02:30 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2179-9-22**] 06:42 AM
   Fentanyl - [**2179-9-22**] 08:54 AM
   Other medications:
   asa, timolol, colace, H2B, vanco, SQH, insulin infusion, meropenem,
   phoslo, renagel, lopressor 25 q8, CHG, duragesic 50, fentanyl boluses
   prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-22**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 90 (74 - 95) bpm
   BP: 183/69(103) {137/55(79) - 190/72(108)} mmHg
   RR: 23 (10 - 23) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
   CVP: 6 (1 - 11)mmHg
   Total In:
                                                                  1,833 mL
                                                                    579 mL
   PO:
   TF:
                                                                    850 mL
                                                                    247 mL
   IVF:
                                                                    523 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                    315 mL
   Urine:
                                                                    240 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,593 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 660 (483 - 940) mL
   PS : 7 cmH2O
   RR (Set): 10
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 30%
   RSBI: 39
   PIP: 35 cmH2O
   SpO2: 94%
   ABG: 7.34/44/120/23/-2
   Ve: 18.8 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Trace, Left: dressing
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, attentive but does not follow commands
   Labs / Radiology
   8.7 g/dL
   671 K/uL
   172 mg/dL
   9.4 mg/dL
   23 mEq/L
   5.4 mEq/L
   140 mg/dL
   101 mEq/L
   142 mEq/L
   26.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2179-9-20**]  05:24 PM
                             [**2179-9-20**]  09:43 PM
                             [**2179-9-21**]  02:18 AM
                             [**2179-9-21**]  02:25 AM
                             [**2179-9-21**]  06:53 AM
                             [**2179-9-21**]  12:06 PM
                             [**2179-9-21**]  06:43 PM
                             [**2179-9-21**]  10:20 PM
                             [**2179-9-22**]  01:51 AM
                             [**2179-9-22**]  06:41 AM
   WBC
   15.9
   13.4
   Hct
   27.5
   26.0
   Plt
   664
   671
   Cr
   8.1
   9.4
   TCO2
   31
   29
   28
   28
   28
   27
   25
   25
   Glucose
   107
   172
   Other labs: PT / PTT / INR:16.5/30.8/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:75.6 %, Band:0.0 %,
   Lymph:18.2 %, Mono:4.7 %, Eos:0.9 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:9.6
   mg/dL
   Assessment and Plan
   70 y/o man with
          Severe LE infection s/p fasciotomy
   o         Appears controlled by fasciotomy and antibiotics.  Will
   eventually need skin grafting.
   o         Continue ABX in course laid out by ID
          Group A strep bacteremia
   o         Complete ABX course laid out by ID
          Respiratory failure
   o         He is now alert but not following commands.  Exam is very
   limited though does not appear focal.
   o         Decision about tracheostomy vs. a trial of extubation is very
   challenging, given reported difficult intubation at outside hospital.
   We will assess him after hemodialysis today.
          Acute renal failure now on hemodialysis
   o         HD today.  Concerning that his BUN is still so high.  Will
   discuss with renal today.
          Hypertension
   o         Assess after hemodialysis; increase metoprolol if still
   significantly hypertense
          Obesity
          Probable VAP
   o         We are finally making progress with his leucocytosis and
   marked left shift.  The overall pattern is consistent with an
   ESBL-producing organism that we did not grow, since his leucocytosis
   only started to improve after changing from Zosyn to meropenem.  We
   will discuss the course of antibiotics with ID today.
          Difficult airway
          Pain control
   o         Consult acute pain service
          Diabetes, uncontrolled
   o         Continue insulin infusion
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Staff Addendum
   2:30p
   Mental status did not improve over the course of hemodialysis, and he
   had an episode of desaturation.  Given his difficult airway and the
   difficulty balancing adequate pain control with sedation, we will
   recommend tracheostomy to his wife.  If he does not show continued (if
   slow) mental status improvement, will investigate further; at this
   point, seems consistent with sedation and uremia, though other things
   are in the DDx.  Discussed with [**Name6 (MD) 4534**] and RN.
   20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2179-9-22**] 14:27 ------

2179-09-23 06:21:00 Physician Resident Progress Note
24 Hour Events:
   - Yesterday ([**9-22**]) morning, pt was weaned to 7 of PS and 0 of PEEP with
   an FiO2 40%.  In mid morning, he had a spontaneous desat event without
   no identifiable precipitating factor. At that time, he was also noted
   to be hypertensive with SBPs in the 200s.  Increased his PEEP and FiO2
   but improved O2 sats but continued hypertension.  Restarted the
   fentanyl and versed drips as well as changed over to AC.  Pt's
   pressures decreased and he seemed less agitated.  Did well for the rest
   of the day.
   - Made plans to move ahead with trach.  His original [**Doctor First Name 458**] team referred
   us to the Red Team (Dr.[**Name (NI) 3954**] team).
   - BUN and Cr transiently improved following HD.
   -          Vancomycin stopped.  ID recommended completing 8 day course
   of meropenem for VAP. Day 1 was [**9-18**]. ID signed off.
   -rectal tube removed [**2-13**] bleeding around the tube, replaced with rectal
   collection device
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-21**] 02:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 70 mcg/hour
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2179-9-22**] 10:11 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-23**] 12:13 AM
   Fentanyl - [**2179-9-23**] 01:30 AM
   Midazolam (Versed) - [**2179-9-23**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-23**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 74 (70 - 96) bpm
   BP: 168/60(87) {114/49(68) - 227/83(128)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 7 (1 - 19)mmHg
   Total In:
                                                                  1,679 mL
                                                                    613 mL
   PO:
   TF:
                                                                    747 mL
                                                                    313 mL
   IVF:
                                                                    332 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  3,445 mL
                                                                    200 mL
   Urine:
                                                                    445 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,766 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 535 (524 - 660) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/41/142/26/4
   Ve: 12.7 L/min
   PaO2 / FiO2: 355
   Physical Examination
   Gen: Intubated and sedated, does not respond to commands or
   spontaneously open eyes
   HEENT: NCAT, pupils pinpoint but equal
   CV: Distant heart sounds, difficult to assess
   Lungs: Referred vent sounds
   Abd: Obese, ND, skin breakdown in intertriginal regions, + BS
   Ext: dps 2+ b/l, left fasc site with VAC, dressing C/D/I
   Lines and tubes: right HD, left subclav, right A-line C/D/I, rectal
   collection device, foley with brown urine, VAC draining serous fluid
   Labs / Radiology
   768 K/uL
   9.4 g/dL
   100 mg/dL
   6.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   92 mg/dL
   103 mEq/L
   142 mEq/L
   27.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2179-9-21**]  10:20 PM
                             [**2179-9-22**]  01:51 AM
                             [**2179-9-22**]  06:41 AM
                             [**2179-9-22**]  12:21 PM
                             [**2179-9-22**]  12:34 PM
                             [**2179-9-22**]  01:44 PM
                             [**2179-9-22**]  02:15 PM
                             [**2179-9-22**]  04:12 PM
                             [**2179-9-22**]  04:46 PM
                             [**2179-9-23**]  02:35 AM
   WBC
   13.4
   14.8
   Hct
   26.0
   27.4
   Plt
   671
   768
   Cr
   9.4
   3.8
   5.1
   6.0
   TCO2
   25
   25
   27
   31
   29
   29
   Glucose
   172
   193
   100
   Other labs: PT / PTT / INR:16.5/30.8/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:69.3 %, Band:0.0 %,
   Lymph:24.3 %, Mono:4.6 %, Eos:0.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:6.9
   mg/dL
   Assessment and Plan
   70 M with DM, recent septic shock (group A strep), compartment syndrome
   s/p fasciotomy, ARF, VAP, leukocytosis.
   1.  Respiratory distress/intubation: Difficulty weaning from vent.
   Possibly due to large amounts of sedation (BDZ and narcotics) vs
   primary central disease.
   - Yesterday ([**9-22**]) morning, pt was weaned to 7 of PS and 0 of PEEP with
   an FiO2 40%.  In mid morning, he had a spontaneous desat event without
   no identifiable precipitating factor. At that time, he was also noted
   to be hypertensive with SBPs in the 200s.  Increased his PEEP and FiO2
   but improved O2 sats but continued hypertension.  Restarted the
   fentanyl and versed drips as well as changed over to AC.  Pt's
   pressures decreased and he seemed less agitated.  Did well for the rest
   of the day.
   - Made plans to move ahead with trach.  His original [**Doctor First Name 458**] team referred
   us to the Red Team (Dr.[**Name (NI) 3954**] team).  Due to body habitus, ?
   history of NSTEMI, and INR of 1.5, surgery for trach as well as PEG may
   be difficult.
   - Continue treating VAP with meropenem
   - Alb/Ipt nebs
   2.  ID: Pneumonia, most likely VAP [**2-13**] ESBL GNR as well as GAS
   bateremia.
   - Pt
s improvement with meropenem leads to belief that GNR was ESBL.
   Will need 8 days of meropenem (day 1 [**9-18**])
   - Stopped vanc yesterday, [**9-22**] because no evidence to suggest
   continuing gram positive infection
   3.  Hypertension
   - Restart beta-blockade, metoprolol 25 mg TID with only minimal
   results.  Pt had one episode of hypotension so have been cautious
   regarding beta blockers.  However, her SBPs remain very high and he may
   benefit from increased anti-hypertensives.  Has required one time doses
   of prn metoprolol for pressure control.
   - Htn may be related to pain; controlling pain may help bring pressures
   down.  Restarting fentanyl and versed gtt did the most to adequately
   control his pressures.
   - HD removal of fluid also helps htn
   4.  ARF: Slightly improved; making urine.
   - [**9-22**] HD was more successful at decreasing BUN and phos.  If HD
   appears to be ineffective at removal of urea, phos, can consider
   changing over to CVVH.
   - On Aluminum for 3 days for hyperphos as well as phoslo
   - will d/c aluminum when phos < 6 and will then increase phoslo to 2
   TID and add sevelamer 800 TID
   5.  Diabetes
   - Continue Insulin gtt.  Will consider switching to subq when pt is
   more stable and is not frequently NPO for possible extubation.
   6.  LLE wound: s/p compartment syndrome and fasciotomy
   - Wound care restarted wound vac on [**9-21**].  Wound care will alert team
   when enough granulation tissue is present for grafting by plastics.
   - Pain service will see pt tomorrow to help guide pain control.  Will
   give standing Tylenol.  Restarted fentanyl gtt.
   7.  Hyperlipidemia - statin d/c
d in setting of acute illness with
   elevated CK
   - reassess when more stable
   8.  RCC - Based on CT findings
   - outpt f/u
   9.  FEN: Recently has been NPO for possible extubation.
   - tube feeds, free water flushes
   10. Communication: Only with wife and son
   - Met with wife and son yesterday, [**9-22**].
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-22**] 10:46 PM 50.[**Telephone/Fax (5) 5297**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-23 10:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
   Episode of respiratory distress this morning --> airway patency
   confirmed by emergency bronchoscopy.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-21**] 02:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 70 mcg/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-9-23**] 01:45 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-23**] 08:14 AM
   Fentanyl - [**2179-9-23**] 09:50 AM
   Other medications:
   asa, h2b, sqh, meropenem, lopressor, CHG, tylenol, phoslo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-23**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 87 (70 - 92) bpm
   BP: 176/71(99) {114/49(68) - 227/83(128)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
   CVP: 8 (1 - 19)mmHg
   Total In:
                                                                  1,679 mL
                                                                  1,022 mL
   PO:
   TF:
                                                                    747 mL
                                                                    520 mL
   IVF:
                                                                    332 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  3,445 mL
                                                                    200 mL
   Urine:
                                                                    445 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,766 mL
                                                                    822 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 535 (524 - 535) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 17 cmH2O
   Compliance: 85.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/41/142/26/4
   Ve: 11.2 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Right: 1+, Left: vac in place
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.4 g/dL
   768 K/uL
   100 mg/dL
   6.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   92 mg/dL
   103 mEq/L
   142 mEq/L
   27.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2179-9-21**]  10:20 PM
                             [**2179-9-22**]  01:51 AM
                             [**2179-9-22**]  06:41 AM
                             [**2179-9-22**]  12:21 PM
                             [**2179-9-22**]  12:34 PM
                             [**2179-9-22**]  01:44 PM
                             [**2179-9-22**]  02:15 PM
                             [**2179-9-22**]  04:12 PM
                             [**2179-9-22**]  04:46 PM
                             [**2179-9-23**]  02:35 AM
   WBC
   13.4
   14.8
   Hct
   26.0
   27.4
   Plt
   671
   768
   Cr
   9.4
   3.8
   5.1
   6.0
   TCO2
   25
   25
   27
   31
   29
   29
   Glucose
   172
   193
   100
   Other labs: PT / PTT / INR:16.5/30.8/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:69.3 %, Band:0.0 %,
   Lymph:24.3 %, Mono:4.6 %, Eos:0.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:6.9
   mg/dL
   Fluid analysis / Other labs: cxr similar to prior
   Assessment and Plan
   70 y/o man with
          Severe LE infection s/p fasciotomy
   o         Appears controlled by fasciotomy and antibiotics.  Will
   eventually need skin grafting.
   o         Vac in place
   o         Continue ABX in course laid out by ID
          Group A strep bacteremia
   o         Complete ABX course laid out by ID
          Respiratory failure
   o         I have recommended tracheostomy to his wife and son.  [**Name (NI) **] my
   notes from yesterday regarding decisionmaking.
   o         We have consulted surgery to assist in tracheostomy and
   possible gastrostomy.
          Acute renal failure now on hemodialysis
   o         HD per renal.  Making some urine now and making progress on
   serologic markers of clearance.
   o         Phos binder
          Hypertension
   o         Increase metoprolol today
          Obesity
          Probable VAP
   o         We have finally made progress with his leucocytosis and
   marked left shift.  The overall pattern is consistent with an
   ESBL-producing organism that we did not grow, since his leucocytosis
   only started to improve after changing from Zosyn to meropenem.
   o         Day 6 of 8 today on meropenem
          Difficult airway
          Renal abnormality on CT, likely RCC
   o         Will need outpatient follow-up.  Our team has discussed with
   his family.
          Pain control
   o         Awaiting pain service recommendations.  IV fentanyl + Tylenol
   for now.
          Diabetes, uncontrolled
   o         Continue insulin infusion
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-9-22**] 10:46 PM 50.[**Telephone/Fax (5) 5297**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: family meeting yesterday (see notes)
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2179-09-24 04:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Trach and PEG scheduled for today as add on case (10 AM to 7PM), was
   NPO p MN
   Pain consult: recommended Ketamine
   Dialysis with poor flow
   Discussed low Hct with surgery.  No need to x-fuse.  Will give blood in
   OR
   Renal: may need DDAVP immediately pre-op
   Discussed renal mass with wife
   Acutely desaturated in context of a partail extubation.  Bronchoscopy
   done.  [**2179-9-23**] 09:15 AM
   IR to replace HD line
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-21**] 02:30 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-9-23**] 11:48 PM
   Fentanyl - [**2179-9-24**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-24**] 04:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 72 (71 - 91) bpm
   BP: 133/49(70) {114/45(63) - 195/74(107)} mmHg
   RR: 20 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
    CVP: 6 (2 - 18)mmHg
   Total In:
                                                                  2,412 mL
                                                                    169 mL
   PO:
   TF:
                                                                  1,196 mL
   IVF:
                                                                    700 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    230 mL
   Urine:
                                                                    700 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,712 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 20 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/40/156/24/2
   Ve: 11.8 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Gen: Intubated and sedated, does responding to commands, opening and
   closing eyes appropriately, mouthing few words, moving all 4
   extremities purposefully
   HEENT: NCAT, pupils pinpoint but equal
   CV: Distant heart sounds, difficult to assess
   Lungs: Referred vent sounds
   Abd: Obese, ND, skin breakdown in intertriginal regions, + BS
   Ext: dps 2+ b/l, left fasc site with VAC, dressing C/D/I
   Lines and tubes: right HD, left subclav, right A-line C/D/I, rectal
   collection device, foley with brown urine, VAC draining serous fluid
   Labs / Radiology
   703 K/uL
   8.2 g/dL
   107 mg/dL
   5.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   100 mg/dL
   103 mEq/L
   140 mEq/L
   24.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2179-9-22**]  01:44 PM
                             [**2179-9-22**]  02:15 PM
                             [**2179-9-22**]  04:12 PM
                             [**2179-9-22**]  04:46 PM
                             [**2179-9-23**]  02:35 AM
                             [**2179-9-23**]  04:21 PM
                             [**2179-9-23**]  04:48 PM
                             [**2179-9-23**]  06:31 PM
                             [**2179-9-24**]  03:13 AM
                             [**2179-9-24**]  03:22 AM
   WBC
   14.8
   13.3
   12.4
   Hct
   27.4
   23.4
   24.6
   24.8
   Plt
   768
   687
   703
   Cr
   3.8
   5.1
   6.0
   5.2
   5.0
   TCO2
   29
   29
   29
   27
   Glucose
   193
   100
   112
   107
   Other labs: PT / PTT / INR:15.5/38.7/1.4, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:268 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:6.4 mg/dL
   Cx: no additional culture data to date
   Assessment and Plan
   70 M with DM, recent septic shock (group A strep), compartment syndrome
   s/p fasciotomy, ARF, VAP, leukocytosis.
   1.  Respiratory distress/intubation: Difficulty weaning from vent due
   to concern for airway protection.  Possibly due to large amounts of
   sedation (BDZ and narcotics) or other metabolic insults contributing to
   overall encephalopathy vs primary central disease. Much more awake and
   alert today, suggesting effective HD helped to allieve uremic
   encephalopathy.
   - Trach and PEG today with Dr. [**Last Name (STitle) **] (add on)
   - Continue treating VAP with meropenem (today is day [**7-20**])
   - Alb/Ipt nebs
   2.  Leukocytosis/ID: Pneumonia, most likely VAP [**2-13**] ESBL GNR as well as
   GAS bateremia.
   - Pt
s improvement with meropenem leads to belief that GNR was ESBL.
   Will need 8 days of meropenem (day 1 [**9-18**])
   - Stopped vanc  [**9-22**] because no evidence to suggest continuing gram
   positive infection
   3.  Hypertension: Metoprolol 25 mg TID with only minimal results.  Pt
   had one episode of hypotension so have been cautious regarding beta
   blockers.  However, SBPs remain very high and he may benefit from
   increased anti-hypertensives.  Htn may be related to pain. Pain consult
   recommended ketamine.  Will hold off for now.
   -control pain by restarting fentanyl and versed gtt for now
   - HD removal of fluid
   - prn metoprolol for SBP > 180
   4.  ARF: Slightly improved; making urine.  Improvement in
   BUN/creatinine.  [**9-22**] HD was more successful at decreasing BUN and
   phos.
   - d/c aluminum
   - phoslo and sevelamer as per renal
   - HD line to be changed today in IR as most recent HD was not completed
   due to difficulties with the current line
   5.  Diabetes
   - Continue Insulin gtt.  Will consider switching to subq when pt is
   more stable and is not frequently NPO for possible extubation.
   6.  LLE wound: s/p compartment syndrome and fasciotomy
   - Wound care restarted wound vac on [**9-21**].  Wound care will alert team
   when enough granulation tissue is present for grafting by plastics.
   - Pain service will see pt tomorrow to help guide pain control.  Will
   give standing Tylenol.  Restarted fentanyl gtt.
   7.  Hyperlipidemia - statin d/c
d in setting of acute illness with
   elevated CK
   - reassess when more stable
   8.  RCC - Based on CT findings
   - outpt f/u
   9.  FEN: Recently has been NPO for possible extubation.
   - tube feeds, free water flushes
   10. Communication: Only with wife and son
   - Met with wife and son, [**9-22**].
   ICU Care
   Nutrition:  tube feeds, NPO for procedure
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2179-9-18**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:  ranitidine
   VAP:  meropenem
   Comments:
   Communication:  wife, son
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2179-09-24 09:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2179-9-23**] 09:15 AM
   No major clinical events since hypoxemic episode yesterday a.m. (see my
   note from yesterday)
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-21**] 02:30 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 80 mcg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Fentanyl - [**2179-9-24**] 06:25 AM
   Ranitidine (Prophylaxis) - [**2179-9-24**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-24**] 09:00 AM
   Other medications:
   asa, timolol, colace, h2b, sqh, lopressor 25 q8, CHG, tylenol standing,
   phoslo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-24**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 96 (71 - 101) bpm
   BP: 153/57(84) {114/45(63) - 183/71(101)} mmHg
   RR: 20 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
   CVP: 8 (4 - 13)mmHg
   Total In:
                                                                  2,412 mL
                                                                    369 mL
   PO:
   TF:
                                                                  1,196 mL
   IVF:
                                                                    700 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    505 mL
   Urine:
                                                                    700 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,712 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 38 cmH2O
   Plateau: 21 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/40/156/24/2
   Ve: 11.4 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Right: 1+, Left: VAC in place
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, now following commands
   Labs / Radiology
   8.2 g/dL
   703 K/uL
   107 mg/dL
   5.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   100 mg/dL
   103 mEq/L
   140 mEq/L
   24.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2179-9-22**]  01:44 PM
                             [**2179-9-22**]  02:15 PM
                             [**2179-9-22**]  04:12 PM
                             [**2179-9-22**]  04:46 PM
                             [**2179-9-23**]  02:35 AM
                             [**2179-9-23**]  04:21 PM
                             [**2179-9-23**]  04:48 PM
                             [**2179-9-23**]  06:31 PM
                             [**2179-9-24**]  03:13 AM
                             [**2179-9-24**]  03:22 AM
   WBC
   14.8
   13.3
   12.4
   Hct
   27.4
   23.4
   24.6
   24.8
   Plt
   768
   687
   703
   Cr
   3.8
   5.1
   6.0
   5.2
   5.0
   TCO2
   29
   29
   29
   27
   Glucose
   193
   100
   112
   107
   Other labs: PT / PTT / INR:15.5/38.7/1.4, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:69.3 %, Band:0.0 %,
   Lymph:24.3 %, Mono:4.6 %, Eos:0.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:6.4
   mg/dL
   Assessment and Plan
   70 y/o man with
          Respiratory failure
   o         I have recommended tracheostomy to his wife and son.  [**Name (NI) **] my
   prior notes regarding decisionmaking.  Although his mental status has
   improved today, he is still at substantial risk for extubation
   failure.  Given his prior difficult intubation (and likely more
   difficult now given relatively long intubation), I feel that the best
   balance of risks and benefits is to proceed with tracheostomy at this
   point.
   o         Anticipate T/G in OR by thoracics today
          Acute renal failure now on hemodialysis
   o         HD per renal.
   o         Continued issues with relatively low flows on line.  To IR
   for fluoroscopic-guided reposition today
   o         Phos binder
          Severe LE infection s/p fasciotomy
   o         Appears controlled by fasciotomy and antibiotics.  Will
   eventually need skin grafting.
   o         Vac in place
   o         Completed ABX in course laid out by ID
          Group A strep bacteremia
   o         Completed ABX course laid out by ID
          Altered mental status
   o         Improving
          Hypertension
   o         Better controlled
          Obesity
          Probable VAP
   o         We have finally made progress with his leucocytosis and
   marked left shift.  The overall pattern is consistent with an
   ESBL-producing organism that we did not grow, since his leucocytosis
   only started to improve after changing from Zosyn to meropenem.
   o         Day 7 of 8 today on meropenem
          Difficult airway
          Renal abnormality on CT, likely RCC
   o         Will need outpatient follow-up.  Our team has discussed with
   his family.
          Pain control
   o         Improved control now
          Diabetes, uncontrolled
   o         Continue insulin infusion given changing caloric intake
          Access
   o         To IR today for HD line placement
   o         PICC today, then d/c CVL
   o         Check matched ABG / VBG and consider d/c arterial line
   ICU Care
   Nutrition: NPO for OR
   Lines: plan as above
   Arterial Line - [**2179-9-15**] 12:00 PM
   Dialysis Catheter - [**2179-9-17**] 05:54 PM
   Multi Lumen - [**2179-9-17**] 07:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 min
   Patient is critically ill

2179-09-25 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient went to IR yesterday where a right tunneled HD cath was placed.
   His nontunneled HD line was left in place but was later removed on the
   floor.
   Left subclavian line was removed.
    Left PICC line was placed.
   Patient went to the OR for trach and PEG without complication.
   Metoprolol was switched to IV until PEG ok to use. Other meds may be
   switched if PEG tube not ok to use today but otherwise felt to be
   non-essential for 1 day.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-9-24**] 09:00 AM
   Ranitidine (Prophylaxis) - [**2179-9-24**] 09:00 AM
   Fentanyl - [**2179-9-24**] 11:00 PM
   Midazolam (Versed) - [**2179-9-24**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-25**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 79 (65 - 101) bpm
   BP: 157/72(97) {123/49(68) - 225/97(140)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  1,587 mL
                                                                    108 mL
   PO:
             TF:
   IVF:
                                                                  1,377 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                  1,020 mL
   Urine:
                                                                    990 mL
                                                                    620 mL
   NG:
   350 mL
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                   -912 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.44/39/94/25/1
   Ve: 12 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place midline
   Cardiovascular: (S1: Normal), (S2: Normal), no MRG, RRR
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly
   Abdominal: Soft, Bowel sounds present, Obese
   Skin:  small skin breakdown in intertriginal region below pannus b/l
   Neurologic: Opens eyes spontaneously, responds intermittently to verbal
   command, intermittent purposeful movement
   Labs / Radiology
   787 K/uL
   8.5 g/dL
   146 mg/dL
   4.7 mg/dL
   25 mEq/L
   4.6 mEq/L
   110 mg/dL
   106 mEq/L
   144 mEq/L
   26.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2179-9-22**]  04:12 PM
                             [**2179-9-22**]  04:46 PM
                             [**2179-9-23**]  02:35 AM
                             [**2179-9-23**]  04:21 PM
                             [**2179-9-23**]  04:48 PM
                             [**2179-9-23**]  06:31 PM
                             [**2179-9-24**]  03:13 AM
                             [**2179-9-24**]  03:22 AM
                             [**2179-9-25**]  04:00 AM
                             [**2179-9-25**]  04:11 AM
   WBC
   14.8
   13.3
   12.4
   12.3
   Hct
   27.4
   23.4
   24.6
   24.8
   26.1
   Plt
   768
   687
   703
   787
   Cr
   5.1
   6.0
   5.2
   5.0
   4.7
   TCO2
   29
   29
   27
   27
   Glucose
   193
   100
   112
   107
   146
   Other labs: PT / PTT / INR:16.6/30.6/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:72.7 %, Band:0.0 %,
   Lymph:21.1 %, Mono:3.8 %, Eos:1.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:7.5
   mg/dL
   Cx: no new growth
   Assessment and Plan
   70 M with DM, recent septic shock (group A strep), compartment syndrome
   s/p fasciotomy, ARF, VAP, leukocytosis.
   1.  Respiratory distress/intubation: Difficulty weaning from vent due
   to concern for airway protection.  Possibly due to large amounts of
   sedation (BDZ and narcotics) or other metabolic insults contributing to
   overall encephalopathy vs primary central disease. Much more awake and
   alert today, suggesting effective HD helped to allieve uremic
   encephalopathy. Trach and PEG in place.
   - allow trach maturation, attempt to wean from vent
   - Continue treating VAP with meropenem until [**9-26**] (today is day [**8-20**])
   - Alb/Ipt nebs
   - chest PT
   2.  Leukocytosis/ID: Pneumonia, most likely VAP [**2-13**] ESBL GNR as well as
   GAS bateremia. Patient completed treatment for both etiologies.
   - Pt
s improvement with meropenem leads to belief that GNR was ESBL.
   3.  Hypertension: Metoprolol 25 mg TID with only minimal results.  Pt
   had one episode of hypotension so have been cautious regarding beta
   blockers.  However, SBPs remain very high and he may benefit from
   increased anti-hypertensives.  Htn may be related to pain. Pain consult
   recommended ketamine.  Will hold off for now.
   -control pain by restarting fentanyl and versed gtt for now
   - HD removal of fluid
   - metoprolol 10mg IV q4 until ok to use PEG for meds --- then,
   metoprolol 25mg TID as prior to PEG placement
   4.  ARF: Slightly improved; making urine.  Improvement in
   BUN/creatinine.  [**9-22**] HD was more successful at decreasing BUN and
   phos.  HD tunneled line placed. Renal has put in HD orders for [**9-25**] but
   remark that if the patient continues with increased urine output and
   decreasing creatinine, would hold off on HD and monitor.
   - phoslo and sevelamer (once phos <6) as per renal
   - f/u renal recs if HD today or not
   5.  Diabetes
   - Continue Insulin gtt.  Will consider switching to subq when pt is
   more stable and after approp glycemic control on regular tube feeds.
   6.  LLE wound: s/p compartment syndrome and fasciotomy
   - Wound care restarted wound vac on [**9-21**].  Wound care will alert team
   when enough granulation tissue is present for grafting by plastics.
   - Pain service will see pt tomorrow to help guide pain control.  Will
   give standing Tylenol.  Restarted fentanyl gtt.
   - VAC dressing to be changed [**9-27**]
   7.  Hyperlipidemia - statin d/c
d in setting of acute illness with
   elevated CK
   - reassess when more stable
   8.  RCC - Based on CT findings
   - outpt f/u, has been discussed with family
   9.  FEN:
   - tube feeds, free water flushes to restart tonight (24 hours post-OR)
   10. Communication: Only with wife and son
   - Met with wife and son, [**9-22**].
   ICU Care
   Nutrition:  tube feeds as per nutrition
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2179-9-18**] 12:00 PM  --- VBG and ABG match well ----
   d/c ART line today
   Dialysis Catheter - [**2179-9-24**] 06:38 PM
   PICC Line - [**2179-9-24**] 06:39 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer:  Ranitidine
   VAP:  Meropenem
   Comments:
   Communication: with wife and son
   [**Name (NI) 66**] status: Full code
   Disposition: ICU, continued eval for eventual placement in trach
   facility

2179-09-26 05:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal decided that he did not need HD yesterday; making urine, labs
   improving
   - Abx end today
   - D/c'd art line
   - Trach and PEG in place.  Able to use PEG for feeds starting late last
   night.
   - Continues to be hypertensive.  Restarted home dose of Amlodipine, in
   addition to his low dose of metoprolol.  No real effect.  Gave 10mg IV
   hydralazine.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-25**] 01:48 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 60 mcg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-9-25**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-26**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 80 (76 - 105) bpm
   BP: 191/73(101) {97/16(34) - 192/99(101)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                    706 mL
                                                                    206 mL
   PO:
             TF:
                                                                      8 mL
                                                                    104 mL
   IVF:
                                                                    467 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    590 mL
   Urine:
                                                                  1,820 mL
                                                                    590 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,514 mL
                                                                   -384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 600) mL
   Vt (Spontaneous): 643 (540 - 670) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/39/139/25/2
   Ve: 13.9 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place midline
   Cardiovascular: (S1: Normal), (S2: Normal), no MRG, RRR
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Respiratory / Chest: (Expansion: Symmetric), CTA anteriorly
   Abdominal: Soft, Bowel sounds present, Obese
   Skin:  small skin breakdown in intertriginal region below pannus b/l
   Neurologic: Opens eyes spontaneously, responds intermittently to verbal
   command, intermittent purposeful movement
   Labs / Radiology
   688 K/uL
   8.1 g/dL
   154 mg/dL
   3.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   112 mg/dL
   109 mEq/L
   149 mEq/L
   24.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2179-9-23**]  02:35 AM
                             [**2179-9-23**]  04:21 PM
                             [**2179-9-23**]  04:48 PM
                             [**2179-9-23**]  06:31 PM
                             [**2179-9-24**]  03:13 AM
                             [**2179-9-24**]  03:22 AM
                             [**2179-9-25**]  04:00 AM
                             [**2179-9-25**]  04:11 AM
                             [**2179-9-25**]  09:45 AM
                             [**2179-9-26**]  03:45 AM
   WBC
   14.8
   13.3
   12.4
   12.3
   11.0
   Hct
   27.4
   23.4
   24.6
   24.8
   26.1
   24.8
   Plt
   768
   687
   703
   787
   688
   Cr
   6.0
   5.2
   5.0
   4.7
   3.7
   TCO2
   29
   27
   27
   27
   Glucose
   100
   112
   107
   146
   154
   Other labs: PT / PTT / INR:16.6/30.6/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:72.7 %, Band:0.0 %,
   Lymph:21.1 %, Mono:3.8 %, Eos:1.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:7.3
   mg/dL
   Assessment and Plan
   70 M with DM, recent septic shock (group A strep), compartment syndrome
   s/p fasciotomy, ARF, VAP, leukocytosis.
   1.  Respiratory distress/intubation: Difficulty weaning from vent due
   to concern for airway protection.  Possibly due to large amounts of
   sedation (BDZ and narcotics) or other metabolic insults contributing to
   overall encephalopathy vs primary central disease. Much more awake and
   alert today, suggesting effective HD helped to allieve uremic
   encephalopathy. Trach and PEG in place.
   - allow trach maturation, attempt to wean from vent
   - Continue treating VAP with meropenem until [**9-26**] (today is day [**8-20**])
   - Alb/Ipt nebs
   - chest PT
   2.  Leukocytosis/ID: Pneumonia, most likely VAP [**2-13**] ESBL GNR as well as
   GAS bateremia. Patient completed treatment for both etiologies.
   - Pt
s improvement with meropenem leads to belief that GNR was ESBL.
   3.  Hypertension: Metoprolol 25 mg TID with only minimal results.  Pt
   had one episode of hypotension so have been cautious regarding beta
   blockers.  However, SBPs remain very high and he may benefit from
   increased anti-hypertensives.  Htn may be related to pain. Pain consult
   recommended ketamine.  Will hold off for now.
   -control pain by restarting fentanyl and versed gtt for now
   - HD removal of fluid
   - metoprolol 10mg IV q4 until ok to use PEG for meds --- then,
   metoprolol 25mg TID as prior to PEG placement
   4.  ARF: Slightly improved; making urine.  Improvement in
   BUN/creatinine.  [**9-22**] HD was more successful at decreasing BUN and
   phos.  HD tunneled line placed. Renal has put in HD orders for [**9-25**] but
   remark that if the patient continues with increased urine output and
   decreasing creatinine, would hold off on HD and monitor.
   - phoslo and sevelamer (once phos <6) as per renal
   - f/u renal recs if HD today or not
   5.  Diabetes
   - Continue Insulin gtt.  Will consider switching to subq when pt is
   more stable and after approp glycemic control on regular tube feeds.
   6.  LLE wound: s/p compartment syndrome and fasciotomy
   - Wound care restarted wound vac on [**9-21**].  Wound care will alert team
   when enough granulation tissue is present for grafting by plastics.
   - Pain service will see pt tomorrow to help guide pain control.  Will
   give standing Tylenol.  Restarted fentanyl gtt.
   - VAC dressing to be changed [**9-27**]
   7.  Hyperlipidemia - statin d/c
d in setting of acute illness with
   elevated CK
   - reassess when more stable
   8.  RCC - Based on CT findings
   - outpt f/u, has been discussed with family
   9.  FEN:
   - tube feeds, free water flushes to restart tonight (24 hours post-OR)
   10. Communication: Only with wife and son
   - Met with wife and son, [**9-22**].
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2179-9-25**] 11:35 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2179-9-24**] 06:38 PM
   PICC Line - [**2179-9-24**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-26 15:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2179-9-25**] 10:30 AM
   No HD per renal as making urine
   S/P Trach and PEG.  PEG mature as of midnight
   Hypertension, started on Amlodipime, Got 10 mg IV hydra x1
   PICC line placed
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-25**] 01:48 PM
   Infusions:
   Insulin - Regular - 6 units/hour
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-9-26**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-9-26**] 03:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 88 (76 - 105) bpm
   BP: 168/76(97) {97/16(34) - 192/99(101)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                    706 mL
                                                                  1,215 mL
   PO:
             TF:
                                                                      8 mL
                                                                    438 mL
   IVF:
                                                                    468 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                  1,860 mL
   Urine:
                                                                  1,820 mL
                                                                  1,860 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,514 mL
                                                                   -645 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 530 (530 - 670) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 0 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place, midline
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), 2+
   Respiratory / Chest: (Breath Sounds: Clear : CTA anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Small skin breakdown
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Moves all 4 extremities in
   response to commands.  More response on Left UE and right LE
   Labs / Radiology
   688 K/uL
   8.1 g/dL
   154 mg/dL
   3.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   112 mg/dL
   109 mEq/L
   149 mEq/L
   24.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2179-9-23**]  02:35 AM
                             [**2179-9-23**]  04:21 PM
                             [**2179-9-23**]  04:48 PM
                             [**2179-9-23**]  06:31 PM
                             [**2179-9-24**]  03:13 AM
                             [**2179-9-24**]  03:22 AM
                             [**2179-9-25**]  04:00 AM
                             [**2179-9-25**]  04:11 AM
                             [**2179-9-25**]  09:45 AM
                             [**2179-9-26**]  03:45 AM
   WBC
   14.8
   13.3
   12.4
   12.3
   11.0
   Hct
   27.4
   23.4
   24.6
   24.8
   26.1
   24.8
   Plt
   768
   687
   703
   787
   688
   Cr
   6.0
   5.2
   5.0
   4.7
   3.7
   TCO2
   29
   27
   27
   27
   Glucose
   100
   112
   107
   146
   154
   Other labs: PT / PTT / INR:16.6/30.6/1.5, CK / CKMB /
   Troponin-T:107/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:72.7 %, Band:0.0 %,
   Lymph:21.1 %, Mono:3.8 %, Eos:1.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:7.3
   mg/dL
   Imaging: CXR: RLL atelectasis vs. effusion
   Microbiology: Catheter tips: No growth
   Assessment and Plan
   70 M with DM, resolving septic schok requiring facsiotomy, resolved
   VAP, s/p trach, now weaning from vent with resolving ARF
   Respiratory distress - s/p trach placement for risky airway and
   decreased respiratory drive [**2-13**] narcosis
   - wean from vest, trach mask.
   - ABG in PN, Psupp overnight
   - D/C meropenem, last day of 8 day course for ESBL PNA.
   - Combivent nebs, chest PT
   - D/C standing APAP to follow fever curve
   Leukocytosis - resolving.  WBC 11 today
   HTN: Wide range but overall high.  Home meds include atenolol 50,
   dyazide, benzapril.  Holding diuretics and ACE while kidney function
   recovering
   - Amlodipine restarted
   - Increased betablocker to 37.5 TID
   - Pain control
   Pain control - have been limited by respiratory function but currently
   that is less of an issue
   - Fentanyl patch at 75 mcg.  Wean IV fantanyl drip as tolerated
   - will discuss with Pain on Monday
   - D/C midazolam
   Hypernatremia - 4L free water deficit.
   - FWB c TF @ 150 Q4.  D5W 500 cc @75 cc/hr.
   - Recheck lytes
   ARF - resolving with increasing UOP
   - cont to monitor
   DM
   -Insulin gtt.  Will start SQ insulin once stable on TF (tomorrow)
   LLE
   - Vac change on [**9-27**]
   - Wound recs
   RCC on CT
   - outpatient f/u
   - wife aware
   Hyperlipidemia - statin stopped in setting of CK elevation
   - Restart crestor.   Check CK
   Communication
 Wife and son only.  Met with wife and son on [**9-22**]
   [**Name2 (NI) **]: [**Name2 (NI) 5367**]/Senna, Ranitidine for stress ulcer
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2179-9-25**] 11:35 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2179-9-24**] 06:38 PM
   PICC Line - [**2179-9-24**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-09-27 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Put on pressure support at 23:30 prophylactically, VBGs without
   significant change
   D5W 250cc/hx1L for hypernatremia given twice.  KCl replaced twice (40
   mg PO)
   Wife requested [**Name2 (NI) 5375**] consult
   Hypernatremia treated with free water boluses via PEG and D5W IV
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-25**] 01:48 PM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-9-26**] 04:06 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain
   Flowsheet Data as of  [**2179-9-27**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 65 (60 - 97) bpm
   BP: 177/65(91) {152/58(82) - 184/83(105)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  3,866 mL
                                                                  1,799 mL
   PO:
             TF:
                                                                    870 mL
                                                                    289 mL
   IVF:
                                                                  1,846 mL
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    780 mL
   Urine:
                                                                  2,900 mL
                                                                    780 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    716 mL
                                                                  1,019 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 612 (0 - 612) mL
   PS : 8 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 17 cmH2O
   SpO2: 100%
   VBG: 7.34/56/44/32
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place, midline
   Cardiovascular: (S1: Normal), (S2: Normal) RRR no MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), 2+
   Respiratory / Chest: (Breath Sounds: Clear : CTA anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Small skin breakdown in intertriginal region below pannus
   Ext: LLE with vac in place draining serous fluid
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Moves all 4 extremities in
   response to commands.  More response on Left UE and right LE
   Labs / Radiology
   638 K/uL
   8.4 g/dL
   176 mg/dL
   2.3 mg/dL
   26 mEq/L
   3.8 mEq/L
   96
   109 mEq/L
   147 mEq/L
   25.4 %
   9.9
        [image002.jpg]
                             [**2179-9-23**]  04:48 PM
                             [**2179-9-23**]  06:31 PM
                             [**2179-9-24**]  03:13 AM
                             [**2179-9-24**]  03:22 AM
                             [**2179-9-25**]  04:00 AM
                             [**2179-9-25**]  04:11 AM
                             [**2179-9-25**]  09:45 AM
                             [**2179-9-26**]  03:45 AM
                             [**2179-9-26**]  06:13 PM
                             [**2179-9-26**]  10:40 PM
   WBC
   12.4
   12.3
   11.0
   Hct
   24.6
   24.8
   26.1
   24.8
   Plt
   [**Telephone/Fax (3) 5376**]
   Cr
   5.0
   4.7
   3.7
   2.8
   2.6
   TCO2
   29
   27
   27
   27
   Glucose
   107
   146
   154
   91
   223
   Other labs: PT / PTT / INR:16.6/30.6/1.5, CK / CKMB /
   Troponin-T:60/4/0.04, ALT / AST:24/19, Alk Phos / T Bili:149/0.6,
   Amylase / Lipase:56/10, Differential-Neuts:72.7 %, Band:0.0 %,
   Lymph:21.1 %, Mono:3.8 %, Eos:1.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:268 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.9
   mg/dL
   Culture: no new data
   Assessment and Plan
   70 M with DM, resolving GAS septic shock, LLE compartment syndrome req
   facsiotomy, ARF on HD thought [**2-13**] ATN, resolved ESBL GNR VAP, s/p
   trach, now weaning from vent with resolving ARF.
   # Respiratory distress - s/p trach placement for risky airway and
   decreased respiratory drive [**2-13**] narcosis.  Completed 8 day course of
   meropenem [**9-26**]. Tolerating trach mask well on rounds.
   - continue on trach mask as tolerated
   - speech and swallow c/s for pacimur valve
   - Combivent nebs, chest PT
   # ARF
 improving, 3L urine in past 24 hours; may not need further HD
   if urine output keeps up, d/c HD line [**9-28**]
   -      d/c Phos-lo
   -          [**Hospital1 **] lytes, replete as necessary
   -          f/u renal recs
   -          monitor
   # Hypernatremia
 several liters free water deficit.
   - FWB c TF @ 300 Q4.  D5W 1000 cc @100 cc/hr.
   - [**Hospital1 **] lytes
   # LLE
   - Vac change today (bolus fentanyl for dressing change)
   - Wound recs
   # Pain control
 patient denies pain
   -          continue fentanyl patch
   -          monitor
   # DM
 well controlled
   -Insulin gtt.
   - add NPH in attempt to transition off of gtt
   # HTN: Wide range but overall high.  Home meds include atenolol 50,
   dyazide, benzapril.  Holding diuretics and ACE while kidney function
   recovering.
   - Amlodipine restarted
   - Increased beta-blocker to 50 TID
   - Pain control
   RCC on CT
   - outpatient f/u, ensure this is relayed to PCP prior to discharge
   - wife aware
   Hyperlipidemia - statin stopped in setting of CK elevation
   - Restart crestor.   Check CK
   Communication
 Wife and son only.  Met with wife and son on [**9-22**]
   [**Name2 (NI) **]: Colace/Senna, Ranitidine for stress ulcer
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2179-9-26**] 10:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2179-9-24**] 06:38 PM
   PICC Line - [**2179-9-24**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: being screened for vent rehab (no longer needs HD
   facility)

2179-09-28 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   On trach collar overnight without problem
   Delirious - blowing kisses and reaching in air for objects that [**Last Name (un) **]
   there - given haldol o/n with improvement - able to sleep a bit
   Screened by rehab trach facility who spoke with patient and family ---
   appears to be promising for transfer to this institution once medically
   appropriate
   Insulin drip d/c
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-9-25**] 01:48 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2179-9-27**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2179-9-27**] 11:37 PM
   Haloperidol (Haldol) - [**2179-9-28**] 03:34 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain
   Flowsheet Data as of  [**2179-9-28**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 89 (67 - 98) bpm
   BP: 160/58(90) {142/53(79) - 193/124(136)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  5,785 mL
                                                                  1,789 mL
   PO:
             TF:
                                                                  1,212 mL
                                                                    364 mL
   IVF:
                                                                  2,543 mL
                                                                    765 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    910 mL
   Urine:
                                                                  3,100 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,685 mL
                                                                    879 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   RR (Spontaneous): 22
   FiO2: 40%
   SpO2: 100%
   ABG:
   Physical Examination
   General Appearance: Pleasant, responsive, following most commands,
   mouthing words
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place, midline
   Cardiovascular: (S1: Normal), (S2: Normal) RRR no MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), 2+
   Respiratory / Chest: (Breath Sounds: Clear : CTA anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Small skin breakdown in intertriginal region below pannus
   Ext: LLE with vac in place draining serous fluid
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Moves all 4 extremities in
   response to commands.  More response on Left UE and right LE
   Labs / Radiology
   682 K/uL
   8.8 g/dL
   123 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   77 mg/dL
   110 mEq/L
   145 mEq/L
   28.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2179-9-24**]  03:22 AM
                             [**2179-9-25**]  04:00 AM
                             [**2179-9-25**]  04:11 AM
                             [**2179-9-25**]  09:45 AM
                             [**2179-9-26**]  03:45 AM
                             [**2179-9-26**]  06:13 PM
                             [**2179-9-26**]  10:40 PM
                             [**2179-9-27**]  05:30 AM
                             [**2179-9-27**]  03:48 PM
                             [**2179-9-28**]  03:00 AM
   WBC
   12.4
   12.3
   11.0
   9.9
   11.3
   Hct
   24.8
   26.1
   24.8
   25.4
   28.0
   Plt
   [**Telephone/Fax (3) 5392**]38
   682
   Cr
   5.0
   4.7
   3.7
   2.8
   2.6
   2.3
   1.8
   1.6
   TCO2
   27
   27
   Glucose
   107
   146
   154
   91
   223
   176
   114
   123
   Other labs: PT / PTT / INR:16.6/30.6/1.5,  Albumin:2.6 g/dL, LDH:268
   IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   70 M with DM, resolving GAS septic shock, LLE compartment syndrome req
   facsiotomy, ARF on HD thought [**2-13**] ATN, resolved ESBL GNR VAP, s/p
   trach, now weaning from vent with resolving ARF.
   # Respiratory distress - s/p trach placement for risky airway and
   decreased respiratory drive [**2-13**] narcosis.  Completed 8 day course of
   meropenem [**9-26**]. Tolerating trach mask well. PMV was unsuccessful [**2-13**]
   secretions.
   - continue on trach mask as tolerated
   - Combivent nebs, chest PT
   # Delirium
 likely [**2-13**] ICU stay s/p multiple organ dysfunction, uremia
   - haldol or seroquel prn (no standing orders)
   # ARF
 improving with adequate urine output and decreasing creatinine,
   unlikely to need further HD
   -          [**Hospital1 **] lytes, replete as necessary
   -          f/u renal recs
 re: d/c HD line today
   -          monitor
   # Hypernatremia
 Improving, several liters free water deficit,
   currently replacing
 tolerating FWBs well
   - FWB c TF @ 300 Q4.  D5W 1000 cc @100 cc/hr.  Likely last liter today
 would like to stop D5W in setting of d/cing insulin gtt
   - [**Hospital1 **] lytes
   # LLE fasciotomy - Vac changed yesterday (bolus fentanyl for dressing
   change)
   - Monday and Thursday dressing changes
   - Wound recs
   - discuss plan for/continued need for skin grafting with plastics
   before patient is d/c
   # Pain control
 patient denies pain
   -          continue fentanyl patch
 decrease by 25mcg with each patch
   change
   -          monitor
   # DM
 Trending up since d/c of insulin gtt
   - continue without insulin gtt
   - increase NPH to 50 [**Hospital1 **]
   # HTN: SBP 140s-150s.  Home meds include atenolol 50, dyazide,
   benzapril.  Holding diuretics and ACE while kidney function recovering.
   - Amlodipine restarted
   - Metoprolol increased to 75 TID on [**9-27**]
   - Pain control
   - monitor
   # RCC on CT
   - outpatient f/u, ensure this is relayed to PCP prior to discharge (in
   d/c summary already)
   - wife aware
   # Hyperlipidemia - Statin stopped in setting of CK elevation. Crestor
   restarted.
   - f/u CK check at some point
   # Communication
 Wife and son only.  Met with wife and son on [**9-22**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2179-9-28**] 05:41 AM 50 mL/hour
   Glycemic Control:  as above
   Lines:
   Dialysis Catheter - [**2179-9-24**] 06:38 PM  --- prob d/c today
   PICC Line - [**2179-9-24**] 06:39 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  ranitidine
 d/c as patient no longer intubated
   VAP:
   Comments: bowel regimen with colace and senna (holding for diarrhea)
   Communication:  Comments:  wife and son only
   [**Name2 (NI) 66**] status: Full code
   Disposition: ICU until placement at trach facility